2169-02-16 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Febrile to 102.8 overnight, pancultured yesterday x 2, here and at
   rehab.
   One episode of hypotension overnight at 2am with SBP in 90s.  Patient
   was given one 500cc IVF bolus with good response.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Meropenem - [**2169-2-16**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-16**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 36.5
C (97.7
   HR: 110 (93 - 126) bpm
   BP: 132/116(93) {74/42(50) - 132/116(94)} mmHg
   RR: 23 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,583 mL
                                                                  1,386 mL
   PO:
             TF:
             267 mL
   IVF:
                                                                  2,453 mL
                                                                    669 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    305 mL
   Urine:
                                                                    200 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,183 mL
                                                                  1,081 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.44/37/222/22/1
   Ve: 8.9 L/min
   PaO2 / FiO2: 555
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   130 K/uL
   7.7 g/dL
   130 mg/dL
   2.7 mg/dL
   22 mEq/L
   4.4 mEq/L
   63 mg/dL
   106 mEq/L
   138 mEq/L
   23.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2169-2-15**]  09:39 PM
                             [**2169-2-16**]  04:04 AM
   WBC
   9.4
   Hct
   23.6
   Plt
   130
   Cr
   2.7
   TCO2
   26
   Glucose
   130
   Other labs: Differential-Neuts:87.6 %, Lymph:6.0 %, Mono:2.7 %, Eos:3.5
   %, Lactic Acid:0.7 mmol/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:4.4
   mg/dL
   MICRO:
[**2169-2-15**] 5:03 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2169-2-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
   This is a 67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR
   PNA who is admitted from [**Hospital 858**] Rehab with Temp 104.6 rectally and +UA,
   likely UTI
   #. Fevers:  Mr. [**Known lastname 2919**] return with fevers for one day.  +UA at rehab and
   here at [**Hospital1 5**] makes UTI the likely source.  Given his history of MDR
   organisms, he has been started on Vancomycin and Amikacin at the rehab
   center.  he will be broadened to Meropenem here.  No sign of PNA on CXR
   here.  Patient also with unilateral arm swelling of [**Last Name (LF) **], [**First Name3 (LF) 124**] r/o DVT
   -- repeat UCx, sputum Cx, Blood Cx here
   -- f/u cultures from [**Hospital 858**] Rehab
   -- cont Vanco/Amikacin, add Meropenem
   -- ID consulted, agreed with Abx regimen
   -- f/u ID recs
   -- [**Hospital **] doppler U/S
   # Hypotension:  Mr. [**Known lastname 2919**] has SBP in 80s on arrival which was
   responsive to 2 500cc IVF boluses.  will cont to monitor. no need for
   pressors at this time.  Hypotension likely [**2-6**] to fevers/UTI.  lactate
   currently normal.
   -- cont to monitor
   -- IVF bolus PRN
   # Acute Renal Failure: Mr. [**Known lastname 2919**] has an acute rise in Cr from 1.5 to
   3.1, likely [**2-6**] dehydration from fevers/UTI.  Patient has been given 3L
   IVF total, currently making urine which makes obstruction unlikely.
   -- monitor Is and Os
   -- trend Creatinine
   #. MS: Patient had a change in mental status along with his fevers.
   Mr. [**Known lastname 2919**] has had similar MS changes during his last two admission [**2-6**]
   to infection.  current AMS likely in setting of UTI.
   -- cont to trend
   # Respiratory Failure:  Mr. [**Known lastname 2919**] has had a tracheostomy for 2 months.
   was on tracheal mask at rehab but now placed back on assist control due
   to AMS in setting of infection.  will attempt to wean as tolerated.
   -- cont AC ventilation
   -- wean as tolerated
   -- Albuterol/Atroven nebs PRN
   #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
   #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   #. ANEMIA: Hx of chronic anemia.  on Ferrous Sulfate at rehab, will
   hold for now to prevent constipation.
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   #. NUTRITION:
   -- Nutren Replete with fiber start at 30 ml/hr, advance to 60ml/hr as
   tolerated
   #. PPX:
   -- DVT PPX with fondaparinox given h/o HIT
   -- PO omeprazole
   -- bowel regimen
   #. ACCESS: Midline placed [**2168-2-15**], PIV
   #. CODE: Full Code per HCP
   #. CONSENT: HCP signed consent
   .
   #. DISPO: pending above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-16**] 12:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-2-15**] 03:20 PM
   20 Gauge - [**2169-2-15**] 03:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-02-17 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 RECTAL SWAB - At [**2169-2-16**] 10:00 AM
 FEVER - 103.1
F - [**2169-2-16**] 08:00 PM
   Received IVF yesterday for tachycardia with good effect (also seems to
   get tachy with fever spikes)
   Upper ext u/s showed nonocclusive thrombus in the mid brachial. No
   final read yet.
   Blood cx positive for GPC
s, Urine positive for 10-100,000 GNR
   CT scan for bronch performed.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-2-16**] 12:01 PM
   Meropenem - [**2169-2-17**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-17**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 36.5
C (97.7
   HR: 98 (84 - 122) bpm
   BP: 118/59(72) {103/38(53) - 170/134(138)} mmHg
   RR: 28 (18 - 47) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,530 mL
                                                                    673 mL
   PO:
             TF:
                                                                  1,260 mL
                                                                    414 mL
   IVF:
                                                                  2,140 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                    927 mL
                                                                    220 mL
   Urine:
                                                                    927 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,603 mL
                                                                    453 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 410 (410 - 410) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 100%
   ABG: ///22/
   Ve: 10.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   162 K/uL
   6.9 g/dL
   114 mg/dL
   3.1 mg/dL
   22 mEq/L
   4.4 mEq/L
   68 mg/dL
   105 mEq/L
   137 mEq/L
   20.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2169-2-15**]  09:39 PM
                             [**2169-2-16**]  04:04 AM
                             [**2169-2-17**]  03:31 AM
   WBC
   9.4
   12.2
   Hct
   23.6
   20.9
   Plt
   130
   162
   Cr
   2.7
   3.1
   TCO2
   26
   Glucose
   130
   114
   Other labs: PT / PTT / INR:15.5/38.7/1.4, ALT / AST:[**5-26**], Alk Phos / T
   Bili:61/0.3, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.6 mg/dL
   [1][**2169-2-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [2][**2169-2-16**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [3][**2169-2-16**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [4][**2169-2-16**]
   SWAB
   R/O VANCOMYCIN RESISTANT ENTEROCOCCUS-PENDING
   INPATIENT
   [5][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [6][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [7][**2169-2-15**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {GRAM NEGATIVE
   ROD(S)}; FUNGAL CULTURE-PRELIMINARY
GRAM STAIN (Final [**2169-2-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
   RESPIRATORY CULTURE (Preliminary):
      ? OROPHARYNGEAL FLORA.
      GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
         ? OF TWO COLONIAL MORPHOLOGIES.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED
   INPATIENT
   [8][**2169-2-15**]
   URINE
   URINE-GRAM STAIN - UNSPUN-FINAL; URINE CULTURE-PRELIMINARY {GRAM
   NEGATIVE ROD(S), YEAST}
    GRAM STAIN PERFORMED ON UNSPUN SPECIMEN.
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      = or >1 per 1000x field   YEAST.
   URINE CULTURE (Preliminary):
      GRAM NEGATIVE ROD(S).    10,000-100,000 ORGANISMS/ML..
         YEAST.    10,000-100,000 ORGANISMS/ML..
   INPATIENT
   [9][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {GRAM POSITIVE COCCUS(COCCI)};
   Anaerobic Bottle Gram Stain-FINAL; Aerobic Bottle Gram Stain-FINAL
Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS.
   Anaerobic Bottle Gram Stain (Final [**2169-2-16**]):
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] #[**Numeric Identifier 4639**] [**2169-2-16**] 1:30PM.
   Aerobic Bottle Gram Stain (Final [**2169-2-16**]):
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
   EMERGENCY [**Hospital1 **]
   Imaging: CT Chest [**2169-2-16**] - Preliminary Report !! WET READ !!  Slightly
   increased pleural effusions, otherwise little change from [**2169-2-3**].
   (CT chest [**2169-2-3**] - IMPRESSION:
   1. No definite cause for persistent fevers is noted aside from
   atelectasis/pleural plaques/scarring within the lungs, particularly at
   the
   dependent bases. These may in part be secondary to changes related to
   prior asbestos exposure. Overall, the appearance of the lungs is
   actually improved when compared to prior imaging from [**2168-11-5**]. )
   Assessment and Plan
   This is a 67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR
   PNA who is admitted from [**Hospital 858**] Rehab with Temp 104.6 rectally and +UA,
   likely UTI
   #. Fevers:  Mr. [**Known lastname 2919**] continued with fevers overnight.  +UA on
   admission making UTI a possibility.  ID consulted, currently on
   Vanco/Amikacin/Meropenem.  Right arm was noted to be swollen yesterday,
   also found to have Right Brachial Vein DVT.
   -- f/u repeat UCx, sputum Cx, Blood Cx here
   -- f/u cultures from [**Hospital 858**] Rehab
   -- cont Vanco/Amikacin, Meropenem
   -- f/u ID recs
   -- f/u final read of RUE doppler U/S
   # Hypotension:  Mr. [**Known lastname 2919**] has SBP in 80s on arrival which was
   responsive to 3 500cc IVF boluses.  will cont to monitor. no need for
   pressors at this time.  Hypotension likely [**2-6**] to fevers/UTI.  lactate
   currently normal.  Also concern for SIRS, currently tachycardic to low
   100s, will give 1L NS bolus now.  Patient is maintaining good urine
   output
   -- cont to monitor
   -- 1L IVF bolus now
   # Acute Renal Failure: Mr. [**Known lastname 2919**] has an acute rise in Cr from 1.5 to
   3.1, likely [**2-6**] dehydration from fevers/UTI.  Patient has been given 5L
   IVF total, making good urine output.  Cr down to 2.7 this AM
   -- monitor Is and Os
   -- trend Creatinine
   -- IVF bolus as above
   #. MS: Patient had a change in mental status along with his fevers.
   Mr. [**Known lastname 2919**] has had similar MS changes during his last two admission [**2-6**]
   to infection.  current AMS likely in setting of UTI/DVT
   -- cont to trend
   # Respiratory Failure:  Mr. [**Known lastname 2919**] has had a tracheostomy for 2 months.
   was on tracheal mask at rehab but now placed back on assist control due
   to AMS in setting of infection.  will attempt to wean as tolerated.
   -- cont AC ventilation
   -- wean as tolerated
   -- Albuterol/Atroven nebs PRN
   #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
   #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   #. ANEMIA: Hx of chronic anemia.  on Ferrous Sulfate at rehab, will
   hold for now to prevent constipation.
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   #. NUTRITION:
   -- Nutren Replete with fiber start at 30 ml/hr, advance to 60ml/hr as
   tolerated
   #. PPX:
   -- DVT PPX with fondaparinox given h/o HIT
   -- PO omeprazole
   -- bowel regimen
   #. ACCESS: Midline placed [**2168-2-15**], PIV
   #. CODE: Full Code per HCP
   #. CONSENT: HCP signed consent
   .
   #. DISPO: pending above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-16**] 07:39 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-2-15**] 03:20 PM
   20 Gauge - [**2169-2-15**] 03:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);

2169-02-17 11:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RECTAL SWAB - At [**2169-2-16**] 10:00 AM
 FEVER - 103.1
F - [**2169-2-16**] 08:00 PM
   Tachycardia improved with IVF.
   Pain in hands
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-2-16**] 12:01 PM
   Meropenem - [**2169-2-17**] 02:00 AM
   Amikacin - [**2169-2-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-17**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37.6
C (99.7
   HR: 105 (84 - 114) bpm
   BP: 104/53(65) {95/47(58) - 134/70(82)} mmHg
   RR: 22 (18 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  4,530 mL
                                                                  1,147 mL
   PO:
             TF:
                                                                  1,260 mL
                                                                    657 mL
   IVF:
                                                                  2,140 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                    927 mL
                                                                    405 mL
   Urine:
                                                                    927 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,603 mL
                                                                    742 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 410 (410 - 410) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 99%
   Ve: 10.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: all present
   Respiratory / Chest: ronchorous BS with expiratory wheezes, equal
   bilaterally, decreased at R base
   Abdominal: Soft, BS+
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: R arm > L arm swelling
   Neurologic: Respondes to verbal stimuli, somnolent
   Labs / Radiology
   6.9 g/dL
   162 K/uL
   114 mg/dL
   3.1 mg/dL
   22 mEq/L
   4.4 mEq/L
   68 mg/dL
   105 mEq/L
   137 mEq/L
   20.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2169-2-15**]  09:39 PM
                             [**2169-2-16**]  04:04 AM
                             [**2169-2-17**]  03:31 AM
   WBC
   9.4
   12.2
   Hct
   23.6
   20.9
   Plt
   130
   162
   Cr
   2.7
   3.1
   TCO2
   26
   Glucose
   130
   114
   Other labs: PT / PTT / INR:15.5/38.7/1.4, ALT / AST:[**5-26**], Alk Phos / T
   Bili:61/0.3, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.6 mg/dL
   Imaging: CT chest: small bibalisar effusions, no new infiltrates,
   chronic basal scarring
   CXR: stable bibasilar opcities
   Microbiology: B CX: GPC OSH and here
   Urine cx: GNR
   Spu: > 25 pmn, multiple orgms, GNR
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
   67 y/o M with hx of colonization with acinetobactoer, enterococcus
   endocarditis, MRSA pneumonia presents with fever, hypotension,
   tachycardia, leukocytosis, thick resp secretions, positive UA,
   responded well to fluids. Still febrile with elevated WBC
   Source: picc, cardiac veggie, urine. All cxs pend
   CT chest w/o new infiltrate
   ? TEE, but we will likely treat him for 6 weeks of antibiotics
   regardless for high grade bacteremia. Check EKG.
   Abx: Vanc, meropenem, amikacin...not covering VRE but no hx of
   colonization...check rectal swab and nasal swba...Rx with bacitracin
   and chlorhexidine bath if positive
   R axillary DVT: picc out, no indication to Rx brachial DVT.
   Vent: stable on CMV while with infection and altered mental status
   Tachycardia: fever, dehydration, responds well to fluid
   Altered mental status: improved
   Renal failure: Fena 0.2, hydrate, follow UO and Cr
   Vent: Add MDIs, check VBG
   Rest per resident note
   ICU Care
   Nutrition: G tube feeds
   Glycemic Control: lantus  + ssi
   Lines / Intubation:
   midline
   20 Gauge - [**2169-2-15**] 03:21 PM
   Comments:
   Prophylaxis:
   DVT: fondoparinaux
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-02-18 07:30:00 Physician Resident Progress Note
Chief Complaint: Bacteremia/Fungemia/UTI
   24 Hour Events:
 BRONCHOSCOPY - At [**2169-2-17**] 02:53 PM
 PICC LINE - STOP [**2169-2-17**] 03:30 PM
 FEVER - 103.3
F - [**2169-2-18**] 04:00 AM
   Pt was found to have blood cultures + for yeast, caspofungin started.
   Continues on vancomycin/amikacin/meropenem
   CT Chest concerning for tracheoesophageal fistula, pt underwent
   bronchoscopy for further evaluation, negative for evidence of fistula.
   BAL sent
   Midline placed at [**Hospital 858**] Rehab pulled, peripheral IVs placed
   HD stable, received 3L IVF bolus total
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-2-16**] 12:01 PM
   Amikacin - [**2169-2-17**] 08:00 AM
   Caspofungin - [**2169-2-17**] 01:49 PM
   Meropenem - [**2169-2-18**] 02:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2169-2-17**] 02:53 PM
   Midazolam (Versed) - [**2169-2-17**] 02:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-18**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 39.6
C (103.3
   HR: 100 (86 - 131) bpm
   BP: 101/55(65) {93/47(58) - 129/74(85)} mmHg
   RR: 44 (13 - 52) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  5,320 mL
                                                                  2,188 mL
   PO:
             TF:
                                                                  1,611 mL
                                                                    554 mL
   IVF:
                                                                  2,790 mL
                                                                  1,174 mL
   Blood products:
                                                                    559 mL
   Total out:
                                                                    995 mL
                                                                    430 mL
   Urine:
                                                                    995 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,325 mL
                                                                  1,758 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 254 (254 - 254) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/35/132/16/-6
   Ve: 14.3 L/min
   PaO2 / FiO2: 330
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   150 K/uL
   8.0 g/dL
   124 mg/dL
   3.0 mg/dL
   16 mEq/L
   3.7 mEq/L
   67 mg/dL
   111 mEq/L
   140 mEq/L
   24.0 %
   10.9 K/uL
        [image002.jpg]
                             [**2169-2-15**]  09:39 PM
                             [**2169-2-16**]  04:04 AM
                             [**2169-2-17**]  03:31 AM
                             [**2169-2-17**]  05:47 PM
                             [**2169-2-18**]  12:21 AM
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
   WBC
   9.4
   12.2
   9.7
   10.9
   Hct
   23.6
   20.9
   21.6
   25.3
   24.0
   Plt
   130
   162
   150
   Cr
   2.7
   3.1
   3.1
   3.0
   TCO2
   26
   19
   Glucose
   130
   114
   104
   124
   Other labs: PT / PTT / INR:17.1/40.1/1.5, ALT / AST:[**10-3**], Alk Phos / T
   Bili:68/0.3, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:207 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.5 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR [**2-17**] Mild-to-moderate pulmonary edema has progressed since
   [**2-15**]. There are
   no findings to suggest pneumonia. Heavy asbestos-related pleural
   calcification noted. Mild cardiomegaly and mediastinal vascular
   engorgement
   have increased slightly, other indications of cardiac decompensation,
   probably
   related to severe calcific aortic stenosis.
   [**2-17**] - CT Chest - IMPRESSION:
   1. Questionable defect in the posterior wall of the upper trachea at
   the
   level of the tip of the tracheostomy tube which is concerning for
   tracheoesophageal fistula. Direct visualization is recommended.
   2. Diffuse ground-glass opacities with thickening of the interlobular
   septum
   suggestive of fluid overload.
   3. Slight interval increase in size of small bilateral pleural
   effusions,
   right greater than left.
   MICROBIOLOGY:
   [1]Date   6
   [2]Specimen
   Tests
   [3]Ordered By
   [All.......]
   [All...................]
   [All...........]
   [4][**2169-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2169-2-18**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [6][**2169-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [7][**2169-2-17**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY; FUNGAL
   CULTURE-PRELIMINARY
   INPATIENT
   [8][**2169-2-17**]
   CATHETER TIP-IV
   WOUND CULTURE-PENDING
   INPATIENT
   [9][**2169-2-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [10][**2169-2-16**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [11][**2169-2-16**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   INPATIENT
   [12][**2169-2-16**]
   SWAB
   R/O VANCOMYCIN RESISTANT ENTEROCOCCUS-PENDING
   INPATIENT
   [13][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [14][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {YEAST}; Aerobic Bottle Gram
   Stain-PRELIMINARY
   INPATIENT
   [15][**2169-2-15**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {GRAM NEGATIVE ROD
   #1, GRAM NEGATIVE ROD #2}; FUNGAL CULTURE-PRELIMINARY
   INPATIENT
   [16][**2169-2-15**]
   URINE
   URINE-GRAM STAIN - UNSPUN-FINAL; URINE CULTURE-PRELIMINARY {KLEBSIELLA
   PNEUMONIAE, YEAST}
   INPATIENT
   [17][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {STAPHYLOCOCCUS, COAGULASE
   NEGATIVE}; Anaerobic Bottle Gram Stain-FINAL; Aerobic Bottle Gram
   Stain-FINAL
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   This is a 67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR
   PNA who is admitted from [**Hospital 858**] Rehab with Temp 104.6 rectally and +UA,
   likely UTI
   #. Fevers:  Mr. [**Known lastname 2919**] continued with fevers overnight.  +UA which is
   now growing Klebsiella, will cont Meropenem.  Also with Gram +cocci in
   his blood cultures so will cont Vancomycin.  +yeast in Blood cultures
   so will start Caspofungin.  Also on Amikacin for history of
   acinetobacter.
   -- f/u repeat UCx, sputum Cx, Blood Cx here
   -- f/u cultures from [**Hospital 858**] Rehab
   -- cont Vanco/Amikacin, Meropenem
   -- start Caspofungin
   -- f/u ID recs
   # Acute Renal Failure: Mr. [**Known lastname 2919**] has an acute rise in Cr from 1.5 to
   3.1 on admission, likely [**2-6**] dehydration from fevers/UTI.  Patient has
   bee, making good urine output.  Cr down to 2.7 yesteray now elevated to
   3.1.  will cont IVF boluses.  FeNa yesteray 0.2% consistent with
   prerenal syndrome.
   -- monitor Is and Os
   -- trend Creatinine
   -- 1 L IVF bolus now
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   -- f/u final U/S read
   #. MS: Patient had a change in mental status along with his fevers,
   which is now improving.
   -- cont to trend
   # Respiratory Failure:  Mr. [**Known lastname 2919**] has had a tracheostomy for 2 months.
   was on tracheal mask at rehab but now placed back on assist control due
   to AMS in setting of infection.  will attempt to wean as tolerated.
   -- cont AC ventilation
   -- wean as tolerated
   -- Albuterol/Atroven nebs PRN
    #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
    #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
    #. ANEMIA: Hx of chronic anemia, HCT down to 20 today from 23 after
   hydration, will transfuse 1uPRBC and recheck HCT.  on Ferrous Sulfate
   at rehab, will hold for now to prevent constipation.
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   #. NUTRITION:
   -- Nutren Replete with fiber start at 30 ml/hr, advance to 75ml/hr as
   tolerated
    #. PPX:
   -- DVT PPX with fondaparinox given h/o HIT
   -- PO omeprazole
   -- bowel regimen
    #. ACCESS: Midline placed [**2168-2-15**], PIV
   #. CODE: Full Code per HCP
   #. CONSENT: HCP signed consent
   #. DISPO: pending above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-18**] 01:34 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-2-15**] 03:21 PM
   Prophylaxis:
   DVT: (fondaprinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU
References
   1. javascript:command('1','Msort')
   2. javascript:command('2','Msort')
   3. javascript:command('4','Msort')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);

2169-02-18 12:27:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 BRONCHOSCOPY - At [**2169-2-17**] 02:53 PM
 PICC LINE - STOP [**2169-2-17**] 03:30 PM
 FEVER - 103.3
F - [**2169-2-18**] 04:00 AM
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-2-16**] 12:01 PM
   Amikacin - [**2169-2-17**] 08:00 AM
   Caspofungin - [**2169-2-17**] 01:49 PM
   Meropenem - [**2169-2-18**] 02:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2169-2-17**] 02:53 PM
   Fentanyl - [**2169-2-17**] 02:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-18**] 12:26 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 38.6
C (101.4
   HR: 113 (96 - 131) bpm
   BP: 116/68(79) {101/54(63) - 129/74(85)} mmHg
   RR: 28 (13 - 52) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  5,320 mL
                                                                  3,101 mL
   PO:
             TF:
                                                                  1,611 mL
                                                                    919 mL
   IVF:
                                                                  2,790 mL
                                                                  1,272 mL
   Blood products:
                                                                    559 mL
   Total out:
                                                                    995 mL
                                                                    760 mL
   Urine:
                                                                    995 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,325 mL
                                                                  2,341 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 254 (254 - 254) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.33/35/132/16/-6
   Ve: 17.3 L/min
   PaO2 / FiO2: 330
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   150 K/uL
   8.0 g/dL
   124 mg/dL
   3.0 mg/dL
   16 mEq/L
   3.7 mEq/L
   67 mg/dL
   111 mEq/L
   140 mEq/L
   24.0 %
   10.9 K/uL
        [image002.jpg]
                             [**2169-2-15**]  09:39 PM
                             [**2169-2-16**]  04:04 AM
                             [**2169-2-17**]  03:31 AM
                             [**2169-2-17**]  05:47 PM
                             [**2169-2-18**]  12:21 AM
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
   WBC
   9.4
   12.2
   9.7
   10.9
   Hct
   23.6
   20.9
   21.6
   25.3
   24.0
   Plt
   130
   162
   150
   Cr
   2.7
   3.1
   3.1
   3.0
   TCO2
   26
   19
   Glucose
   130
   114
   104
   124
   Other labs: PT / PTT / INR:17.1/40.1/1.5, ALT / AST:[**10-3**], Alk Phos / T
   Bili:68/0.3, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:207 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.5 mg/dL, PO4:3.8 mg/dL
   [1]Date   6
   [2]Specimen
   Tests
   [3]Ordered By
   [All.......]
   [All...................]
   [All...........]
   [4][**2169-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2169-2-18**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [6][**2169-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [7][**2169-2-17**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY; FUNGAL
   CULTURE-PRELIMINARY
   INPATIENT
   [8][**2169-2-17**]
   CATHETER TIP-IV
   WOUND CULTURE-PENDING
   INPATIENT
   [9][**2169-2-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [10][**2169-2-16**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [11][**2169-2-16**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   INPATIENT
   [12][**2169-2-16**]
   SWAB
   R/O VANCOMYCIN RESISTANT ENTEROCOCCUS-PRELIMINARY
   INPATIENT
   [13][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [14][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {YEAST}; Aerobic Bottle Gram
   Stain-PRELIMINARY
   INPATIENT
   [15][**2169-2-15**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {PSEUDOMONAS
   AERUGINOSA, GRAM NEGATIVE ROD #2, STAPH AUREUS COAG +}; FUNGAL
   CULTURE-PRELIMINARY
   INPATIENT
   [16][**2169-2-15**]
   URINE
   URINE-GRAM STAIN - UNSPUN-FINAL; URINE CULTURE-FINAL {KLEBSIELLA
   PNEUMONIAE, YEAST}
   INPATIENT
   [17][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL {STAPHYLOCOCCUS, COAGULASE NEGATIVE};
   Anaerobic Bottle Gram Stain-FINAL; Aerobic Bottle Gram Stain-FINAL
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   This is a 67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR
   PNA who is admitted from [**Hospital 858**] Rehab with sepsis, found to have
   fungemia and bacteremia as well as UTI. Persistently febrile but HD
   stable
   .
   #. Sepsis: The pt has a history of recurrent MDR PNA as well as history
   of endocarditis. Recent admission with MRSA PNA, completed 14 day
   course of vancomycin on [**2-12**] now readmitted with fever. Blood cultures
   with yeast and Coagulase negative Staph. Urine cultures with
   Klebsiella. Currently on Vanc/Amikacin/Meropenem. Possible sources of
   infection include PICC line, urine and lung. All central lines now
   discontinued. Pt underwent bronch yest with no clear evidence of PNA,
   BAL sent
   - Goal MAP >65
   - No pressor requirement at this time, responsive to IVF
   - ID management as below
   #. Fungemia
 unclear source at this time but urine vs PICC most
   likely, no clear evidence of PNA
   - [**2-15**] blood cultures from rehab and here growing yeast
   - started on caspofungin yesterday
   - + yeast in urine
 will obtain renal ultrasound to evaluate for renal
   abscess, ensure foley change
   - given multiple + BC will request cards consult for TEE to evaluate
   for valve involvement, pt not a surgical candidate given comorbities
   but will define treatment duration as well as providing significant
   prognostic information
   .
   # Coagulase negative staph bacteremia
 Likely line related infection
   from PICC. On prior admission pt with 2/4 bottles from 1 set at rehab
   with CoNS felt likely contaminant, pt received 14 days vanc for MRSA
   PNA. Now with 2 bottles from rehab + on [**2-14**] and here on [**2-15**]
   - Continue Vancomycin dosed by level (goal trough 15-20)
   - follow surveillance cultures
   - all central lines now DC
   .
   # Klebsiella pneumoniae UTI - (ESBL +) Pt currently on Amikacin and
   meropenem (sensitive to meropenem)
   - will continue for now, follow up ID recs
   - Amikacin dose changed to 750mg IV Q36 based on level
   - consider DC amikacin if not needed for lung coverage given [**Last Name (un) **] S
    .
   # Hx MDR PNA - Hx of Pseudomonas and Acinetobacter PNA requiring
   amikacin/colisitn, also recent MRSA PNA treated with Vancomycin -
   currently  no clear evidence of PNA, bronch completed yesterday.
   Iniital concern for possible tracheoesophageal fistula seen on CT Chest
   however bronch negative.
   - Continue current antimicrobial regimen awaiting final culture data
   from bronch
   .
   # Acute on Chronic Renal Failure: Pt with history of AIN from colistin,
   Cr had improved to 1.5 now rising to 3.1 on admission, continues to
   worsen despite IVF, likely [**2-6**] dehydration from fevers/UTI.   FeNa [**2-16**]
   - 0.2% consistent with prerenal syndrome.
   -- monitor Is and Os
   -- trend Creatinine
   -- IVF bolus PRN
   - Renally dose meds
   .
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   .
   #. MS: Patient had a change in mental status along with his fevers,
   likely delirium related to infection
   -- cont to trend
   .
   # Respiratory Failure: has had a tracheostomy for 2 months.  was on
   tracheal mask at rehab but now placed back on assist control due to AMS
   in setting of infection.  will attempt to wean as tolerated.
   -- cont AC ventilation
   -- wean as tolerated
   -- Albuterol/Atroven nebs PRN
   .
    #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
    .
    #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
    #. ANEMIA: Hx of chronic anemia, HCT down to 20 today from 23 after
   hydration, transfused 2 U PRBC with improvement to 25
    .
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   .
   #. NUTRITION:
   -- Nutren Replete with fiber start at 30 ml/hr, advance to 75ml/hr as
   tolerated
   .
    #. PPX:
   -- DVT PPX with fondaparinox given h/o HIT
   -- PO omeprazole
   -- bowel regimen
   .
    #. ACCESS: Midline placed [**2168-2-15**] now DC'd, PIV X2, avoiding CVL given
   + Blood Cx
   .
   #. CODE: Full Code per HCP
   .
   #. CONSENT: HCP signed consent
   .
   #. DISPO: pending above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-18**] 01:34 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-2-15**] 03:21 PM
   Prophylaxis:
   DVT: (fondaparinux)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU
References
   1. javascript:command('1','Msort')
   2. javascript:command('2','Msort')
   3. javascript:command('4','Msort')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);

2169-02-19 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2169-2-18**] 12:00 PM
   UOP decreased at in early morning, given 1L IVF bolus with good
   response.
   Cultures from OSH = yeast not speciated.  Blood cultures showeing Staph
   epi in one bottle.  2nd bottle showing two species of coag neg staph,
   not speciated.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-2-16**] 12:01 PM
   Caspofungin - [**2169-2-17**] 01:49 PM
   Amikacin - [**2169-2-18**] 08:39 PM
   Meropenem - [**2169-2-19**] 02:56 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-2-19**] 06:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-19**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.9
C (100.2
   HR: 94 (84 - 113) bpm
   BP: 101/57(67) {96/52(62) - 126/80(87)} mmHg
   RR: 34 (18 - 48) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,832 mL
                                                                  1,844 mL
   PO:
             TF:
                                                                  1,802 mL
                                                                    498 mL
   IVF:
                                                                  1,740 mL
                                                                  1,166 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    275 mL
   Urine:
                                                                  1,240 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,592 mL
                                                                  1,569 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 10 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   150 K/uL
   8.0 g/dL
   124 mg/dL
   3.0 mg/dL
   16 mEq/L
   3.7 mEq/L
   67 mg/dL
   111 mEq/L
   140 mEq/L
   24.0 %
   10.9 K/uL
        [image002.jpg]
                             [**2169-2-15**]  09:39 PM
                             [**2169-2-16**]  04:04 AM
                             [**2169-2-17**]  03:31 AM
                             [**2169-2-17**]  05:47 PM
                             [**2169-2-18**]  12:21 AM
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
   WBC
   9.4
   12.2
   9.7
   10.9
   Hct
   23.6
   20.9
   21.6
   25.3
   24.0
   Plt
   130
   162
   150
   Cr
   2.7
   3.1
   3.1
   3.0
   TCO2
   26
   19
   Glucose
   130
   114
   104
   124
   Other labs: PT / PTT / INR:17.1/40.1/1.5, ALT / AST:[**10-3**], Alk Phos / T
   Bili:68/0.3, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:207 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.5 mg/dL, PO4:3.8 mg/dL
   [1]Date   6
   [2]Specimen
   Tests
   [3]Ordered By
   [All.......]
   [All...................]
   [All...........]
   [4][**2169-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2169-2-18**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [6][**2169-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [7][**2169-2-17**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {GRAM NEGATIVE
   ROD(S)}; FUNGAL CULTURE-PRELIMINARY
   INPATIENT
   [8][**2169-2-17**]
   CATHETER TIP-IV
   WOUND CULTURE-PRELIMINARY
   INPATIENT
   [9][**2169-2-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {YEAST}; Aerobic Bottle Gram
   Stain-FINAL
   INPATIENT
   [10][**2169-2-16**]
   MRSA SCREEN
   MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS}
   INPATIENT
   [11][**2169-2-16**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   INPATIENT
   [12][**2169-2-16**]
   SWAB
   R/O VANCOMYCIN RESISTANT ENTEROCOCCUS-PRELIMINARY
   INPATIENT
   [13][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [14][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {YEAST}; Aerobic Bottle Gram
   Stain-FINAL
   INPATIENT
   [15][**2169-2-15**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {PSEUDOMONAS
   AERUGINOSA, GRAM NEGATIVE ROD #2, STAPH AUREUS COAG +}; FUNGAL
   CULTURE-PRELIMINARY
   INPATIENT
   [16][**2169-2-15**]
   URINE
   URINE-GRAM STAIN - UNSPUN-FINAL; URINE CULTURE-FINAL {KLEBSIELLA
   PNEUMONIAE, YEAST}
   INPATIENT
   [17][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL {STAPHYLOCOCCUS, COAGULASE NEGATIVE};
   Anaerobic Bottle Gram Stain-FINAL; Aerobic Bottle Gram Stain-FINAL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
   This is a 67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR
   PNA who is admitted from [**Hospital 858**] Rehab with sepsis, found to have
   fungemia and bacteremia as well as UTI. Persistently febrile but HD
   stable
   .
   #. Sepsis: The pt has a history of recurrent MDR PNA as well as history
   of endocarditis. Recent admission with MRSA PNA, completed 14 day
   course of vancomycin on [**2-12**] now readmitted with fever. Blood cultures
   with yeast and Coagulase negative Staph. Urine cultures with
   Klebsiella. Currently on Vanc/Amikacin/Meropenem. Possible sources of
   infection include PICC line, urine and lung. All central lines now
   discontinued. Pt underwent bronch yest with no clear evidence of PNA,
   BAL sent
   - Goal MAP >65
   - No pressor requirement at this time, responsive to IVF
   - ID management as below
   #. Fungemia
 unclear source at this time but urine vs PICC most
   likely, no clear evidence of PNA
   - [**2-15**] blood cultures from rehab and here growing yeast
   - started on caspofungin yesterday
   - + yeast in urine
 will obtain renal ultrasound to evaluate for renal
   abscess, ensure foley change
   - given multiple + BC will request cards consult for TEE to evaluate
   for valve involvement, pt not a surgical candidate given comorbities
   but will define treatment duration as well as providing significant
   prognostic information
   .
   # Coagulase negative staph bacteremia
 Likely line related infection
   from PICC. On prior admission pt with 2/4 bottles from 1 set at rehab
   with CoNS felt likely contaminant, pt received 14 days vanc for MRSA
   PNA. Now with 2 bottles from rehab + on [**2-14**] and here on [**2-15**]
   - Continue Vancomycin dosed by level (goal trough 15-20)
   - follow surveillance cultures
   - all central lines now DC
   .
   # Klebsiella pneumoniae UTI - (ESBL +) Pt currently on Amikacin and
   meropenem (sensitive to meropenem)
   - will continue for now, follow up ID recs
   - Amikacin dose changed to 750mg IV Q36 based on level
   - consider DC amikacin if not needed for lung coverage given [**Last Name (un) **] S
    .
   # Hx MDR PNA - Hx of Pseudomonas and Acinetobacter PNA requiring
   amikacin/colisitn, also recent MRSA PNA treated with Vancomycin -
   currently  no clear evidence of PNA, bronch completed yesterday.
   Iniital concern for possible tracheoesophageal fistula seen on CT Chest
   however bronch negative.
   - Continue current antimicrobial regimen awaiting final culture data
   from bronch
   .
   # Acute on Chronic Renal Failure: Pt with history of AIN from colistin,
   Cr had improved to 1.5 now rising to 3.1 on admission, continues to
   worsen despite IVF, likely [**2-6**] dehydration from fevers/UTI.   FeNa [**2-16**]
   - 0.2% consistent with prerenal syndrome.
   -- monitor Is and Os
   -- trend Creatinine
   -- IVF bolus PRN
   - Renally dose meds
   .
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   .
   #. MS: Patient had a change in mental status along with his fevers,
   likely delirium related to infection
   -- cont to trend
   .
   # Respiratory Failure: has had a tracheostomy for 2 months.  was on
   tracheal mask at rehab but now placed back on assist control due to AMS
   in setting of infection.  will attempt to wean as tolerated.
   -- cont AC ventilation
   -- wean as tolerated
   -- Albuterol/Atroven nebs PRN
   .
    #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
    .
    #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
    #. ANEMIA: Hx of chronic anemia, HCT down to 20 today from 23 after
   hydration, transfused 2 U PRBC with improvement to 25
    .
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   .
   #. NUTRITION:
   -- Nutren Replete with fiber start at 30 ml/hr, advance to 75ml/hr as
   tolerated
   .
    #. PPX:
   -- DVT PPX with fondaparinox given h/o HIT
   -- PO omeprazole
   -- bowel regimen
   .
    #. ACCESS: Midline placed [**2168-2-15**] now DC'd, PIV X2, avoiding CVL given
   + Blood Cx
   .
   #. CODE: Full Code per HCP
   .
   #. CONSENT: HCP signed consent
   .
   #. DISPO: pending above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-19**] 04:08 AM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-2-15**] 03:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. javascript:command('1','Msort')
   2. javascript:command('2','Msort')
   3. javascript:command('4','Msort')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);

2169-02-19 11:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2169-2-18**] 12:00 PM
   UOP decreased at in early morning, given 1L IVF bolus with good
   response.
   Cultures from OSH = yeast not speciated.  Blood cultures showeing Staph
   epi in one bottle.  2nd bottle showing two species of coag neg staph,
   not speciated.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Vancomycin - [**2169-2-16**] 12:01 PM
   Caspofungin - [**2169-2-17**] 01:49 PM
   Amikacin - [**2169-2-18**] 08:39 PM
   Meropenem - [**2169-2-19**] 02:56 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-2-19**] 06:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-19**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.9
C (100.2
   HR: 94 (84 - 113) bpm
   BP: 101/57(67) {96/52(62) - 126/80(87)} mmHg
   RR: 34 (18 - 48) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,832 mL
                                                                  1,844 mL
   PO:
             TF:
                                                                  1,802 mL
                                                                    498 mL
   IVF:
                                                                  1,740 mL
                                                                  1,166 mL
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    275 mL
   Urine:
                                                                  1,240 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,592 mL
                                                                  1,569 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 19 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 10 L/min
   Physical Examination
   Gen: Moderate distress, diaphoretic
   CVS: +S1/S2, no m/r/g, RRR
   LUNGS: mild ronchi anterior lung fields
   ABD: +BS, NT/ND
   EXT: +1 peripheral edema, +2 pulses
   Labs / Radiology
   150 K/uL
   8.0 g/dL
   124 mg/dL
   3.0 mg/dL
   16 mEq/L
   3.7 mEq/L
   67 mg/dL
   111 mEq/L
   140 mEq/L
   24.0 %
   10.9 K/uL
        [image002.jpg]
                             [**2169-2-15**]  09:39 PM
                             [**2169-2-16**]  04:04 AM
                             [**2169-2-17**]  03:31 AM
                             [**2169-2-17**]  05:47 PM
                             [**2169-2-18**]  12:21 AM
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
   WBC
   9.4
   12.2
   9.7
   10.9
   Hct
   23.6
   20.9
   21.6
   25.3
   24.0
   Plt
   130
   162
   150
   Cr
   2.7
   3.1
   3.1
   3.0
   TCO2
   26
   19
   Glucose
   130
   114
   104
   124
   Other labs: PT / PTT / INR:17.1/40.1/1.5, ALT / AST:[**10-3**], Alk Phos / T
   Bili:68/0.3, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:207 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.5 mg/dL, PO4:3.8 mg/dL
   [1]Date   6
   [2]Specimen
   Tests
   [3]Ordered By
   [All.......]
   [All...................]
   [All...........]
   [4][**2169-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2169-2-18**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [6][**2169-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [7][**2169-2-17**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {GRAM NEGATIVE
   ROD(S)}; FUNGAL CULTURE-PRELIMINARY
   INPATIENT
   [8][**2169-2-17**]
   CATHETER TIP-IV
   WOUND CULTURE-PRELIMINARY
   INPATIENT
   [9][**2169-2-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {YEAST}; Aerobic Bottle Gram
   Stain-FINAL
   INPATIENT
   [10][**2169-2-16**]
   MRSA SCREEN
   MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS}
   INPATIENT
   [11][**2169-2-16**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   INPATIENT
   [12][**2169-2-16**]
   SWAB
   R/O VANCOMYCIN RESISTANT ENTEROCOCCUS-PRELIMINARY
   INPATIENT
   [13][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [14][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {YEAST}; Aerobic Bottle Gram
   Stain-FINAL
   INPATIENT
   [15][**2169-2-15**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {PSEUDOMONAS
   AERUGINOSA, GRAM NEGATIVE ROD #2, STAPH AUREUS COAG +}; FUNGAL
   CULTURE-PRELIMINARY
   INPATIENT
   [16][**2169-2-15**]
   URINE
   URINE-GRAM STAIN - UNSPUN-FINAL; URINE CULTURE-FINAL {KLEBSIELLA
   PNEUMONIAE, YEAST}
   INPATIENT
   [17][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL {STAPHYLOCOCCUS, COAGULASE NEGATIVE};
   Anaerobic Bottle Gram Stain-FINAL; Aerobic Bottle Gram Stain-FINAL
   Assessment and Plan
   This is a 67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR
   PNA who is admitted from [**Hospital 858**] Rehab with sepsis, found to have
   fungemia and bacteremia as well as UTI. Persistently febrile but
   Hemodynamically stable
   .
   #. Sepsis: The pt has a history of recurrent MDR PNA as well as history
   of endocarditis. Recent admission with MRSA PNA, completed 14 day
   course of vancomycin on [**2-12**] now readmitted with fever. Blood cultures
   with yeast and Coagulase negative Staph. Urine cultures with
   Klebsiella. Currently on Vanc/Amikacin/Meropenem.
   - cont Vanco/[**Last Name (un) 350**]
   - d/c amikacin per ID
   - Goal MAP >65
   - No pressor requirement at this time, responsive to IVF
   - f/u ID recs
   #. Fungemia
 unclear source at this time but urine vs PICC most
   likely.   Renal U/S done yesterday and was neg.
   - [**2-15**] blood cultures from rehab and here growing yeast
 awaiting
   speciation
   - Blood culture here growing yeast
   - + yeast in urine
   - cont caspofungin
   - will consult cards tomorrow for TEE Tuesday
   -
   .
   # Coagulase negative staph bacteremia
 Likely line related infection
   from PICC.
   - Continue Vancomycin dosed by level (goal trough 15-20)
   - follow surveillance cultures
   - all central lines now DC
   .
   # Klebsiella pneumoniae UTI - (ESBL +) Pt currently on Amikacin and
   meropenem (sensitive to meropenem).  Will d/c amikcacin per ID
   -, follow up ID recs
   - d/c amickain
   .
   # Hx MDR PNA - Hx of Pseudomonas and Acinetobacter PNA requiring
   amikacin/colisitn, also recent MRSA PNA treated with Vancomycin .  no
   evidence of PNA at this time
   - cont to monitor
   .
   # Acute on Chronic Renal Failure: Pt with history of AIN from colistin,
   Cr had improved to 1.5 now rising to 3.1 on admission, continues to
   worsen despite IVF, likely [**2-6**] dehydration from fevers/UTI.   FeNa [**2-16**]
   - 0.2% consistent with prerenal syndrome.  UOP decreased overnight
   which was responsive to IVF bolus
   -- monitor Is and Os
   -- trend Creatinine
   -- IVF bolus PRN
   - Renally dose meds
   .
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   .
   #. MS: Patient had a change in mental status along with his fevers,
   likely delirium related to infection
   -- cont to trend
   .
   # Respiratory Failure: has had a tracheostomy for 2 months.  was on
   tracheal mask at rehab but now placed back on assist control due to AMS
   in setting of infection.  will attempt to wean as tolerated.
   -- cont AC ventilation
   -- wean as tolerated
   -- Albuterol/Atroven nebs PRN
   .
    #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
    .
    #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
    #. ANEMIA: Hx of chronic anemia.  Received 2uPRBC on admission for HCT
   20, now stable
    .
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   .
   #. NUTRITION:
   -- Nutren Replete with fiber 75ml/hr as tolerated
   .
    #. PPX:
   -- DVT PPX with fondaparinox given h/o HIT
   -- PO omeprazole
   -- bowel regimen
   .
    #. ACCESS: Midline placed [**2168-2-15**] now DC'd, PIV X2, avoiding CVL given
   + Blood Cx
   .
   #. CODE: Full Code per HCP
   .
   #. CONSENT: HCP signed consent
   .
   # Comm: Family [**Name2 (NI) 4669**] planned for monday
   .
   #. DISPO: pending above
References
   1. javascript:command('1','Msort')
   2. javascript:command('2','Msort')
   3. javascript:command('4','Msort')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  17. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);

2169-02-20 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.5
F - [**2169-2-19**] 04:00 PM - spiked intermittently
   throughout yesterday
   ID consult - recommended TEE and ophtho c/s
   1L NS bolus for dropping UOP overnight (received lasix in the AM)
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-2-18**] 08:39 PM
   Caspofungin - [**2169-2-19**] 06:00 PM
   Meropenem - [**2169-2-20**] 01:59 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2169-2-19**] 10:45 AM
   Morphine Sulfate - [**2169-2-20**] 03:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-20**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.9
C (100.2
   HR: 89 (79 - 105) bpm
   BP: 113/57(70) {92/46(43) - 127/68(78)} mmHg
   RR: 20 (17 - 44) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,022 mL
                                                                  1,777 mL
   PO:
             TF:
                                                                  1,802 mL
                                                                    508 mL
   IVF:
                                                                  1,690 mL
                                                                  1,169 mL
   Blood products:
   Total out:
                                                                  1,135 mL
                                                                    182 mL
   Urine:
                                                                  1,135 mL
                                                                    182 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,887 mL
                                                                  1,595 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 446 (446 - 446) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   RSBI Deferred: Agitated
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ///17/
   Ve: 10.2 L/min
   Physical Examination
   Gen: uncomfortable appearing
   HEENT: dry MM
   CV: tachy, Regular rhythm, no MRG
   Resp: clear ant, bibasilar crackles,
   Abd: soft, NT/ND NABS
   Ext: +swelling RUE, +tenderness on palpation of shoulder and wrist
   Labs / Radiology
   171 K/uL
   7.4 g/dL
   107 mg/dL
   3.9 mg/dL
   17 mEq/L
   4.7 mEq/L
   89 mg/dL
   108 mEq/L
   139 mEq/L
   23.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2169-2-15**]  09:39 PM
                             [**2169-2-16**]  04:04 AM
                             [**2169-2-17**]  03:31 AM
                             [**2169-2-17**]  05:47 PM
                             [**2169-2-18**]  12:21 AM
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
   WBC
   9.4
   12.2
   9.7
   10.9
   9.7
   10.8
   Hct
   23.6
   20.9
   21.6
   25.3
   24.0
   23.0
   23.5
   Plt
   130
   162
   150
   161
   171
   Cr
   2.7
   3.1
   3.1
   3.0
   3.4
   3.9
   TCO2
   26
   19
   Glucose
   130
   114
   104
   124
   112
   107
   Other labs: PT / PTT / INR:18.1/41.7/1.7, ALT / AST:[**10-3**], Alk Phos / T
   Bili:68/0.3, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:207 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:6.0 mg/dL
   MICRO:
   [1][**2169-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [2][**2169-2-18**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   [3][**2169-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [4][**2169-2-17**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {ACINETOBACTER
   BAUMANNII COMPLEX}; FUNGAL CULTURE-PRELIMINARY
   [5][**2169-2-17**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL
   [6][**2169-2-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {YEAST}; Aerobic Bottle Gram
   Stain-FINAL
   [7][**2169-2-16**]
   MRSA SCREEN
   MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS}
   [8][**2169-2-16**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   [9][**2169-2-16**]
   SWAB
   R/O VANCOMYCIN RESISTANT ENTEROCOCCUS-PRELIMINARY {ENTEROCOCCUS SP.}
   [10][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [11][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {[**Female First Name (un) **] ALBICANS, PRESUMPTIVE
   IDENTIFICATION}; Aerobic Bottle Gram Stain-FINAL
   [12][**2169-2-15**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {PSEUDOMONAS AERUGINOSA,
   ACINETOBACTER BAUMANNII COMPLEX, STAPH AUREUS COAG +}; FUNGAL
   CULTURE-PRELIMINARY
   [13][**2169-2-15**]
   URINE
   URINE-GRAM STAIN - UNSPUN-FINAL; URINE CULTURE-FINAL {KLEBSIELLA
   PNEUMONIAE, YEAST}
   [14][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL {STAPHYLOCOCCUS, COAGULASE NEGATIVE};
   Anaerobic Bottle Gram Stain-FINAL; Aerobic Bottle Gram Stain-FINAL
   Assessment and Plan
   67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR PNA who is
   admitted from [**Hospital 858**] Rehab with sepsis, found to have fungemia, Coag
   neg staph bacteremia as well as Klebsiella UTI. Pt was persistently
   febrile but Hemodynamically stable.
   .
   #. Sepsis: The pt has a history of recurrent MDR PNA as well as history
   of endocarditis. Recent admission with MRSA PNA, completed 14 day
   course of vancomycin on [**2-12**] now readmitted with fever. Blood cultures
   with yeast (prelim- C. albicans) and Coagulase negative Staph. Urine
   cultures with Klebsiella. Currently on Vanc/Meropenem/caspofungin.
   - cont Vanco/[**Last Name (un) 350**]/Caspofungin
   - Amikacin DC
d yest
   - Goal MAP >65
   - No pressor requirement at this time, responsive to IVF
   - appreciate ID recs
   .
   #. Fungemia
 unclear source at this time but urine vs PICC most
   likely.   Renal U/S negative for evidence of abscess.
   - 2/11&[**2-17**] blood cultures growing yeast
 awaiting final speciation
   prelim
 C.albicans
   - continue caspofungin, if final speciation C. albicans consider
   changing to fluconazole
   - will consult cards tomorrow for TEE
   .
   # Coagulase negative staph bacteremia
 Likely line related infection
   from PICC.
   - Continue Vancomycin dosed by level (goal trough 15-20)
   - follow surveillance cultures
   - all central lines DC
   .
   # Klebsiella pneumoniae UTI - (ESBL +) Amikacin DC
d yest. Continue
   meropenem, subsequent urine cultures cleared
   - dose meropenem 500 Q24 given renal failure, infuse over 4 hours
   - follow up ID recs
   .
   # Hx MDR PNA - Hx of Pseudomonas and Acinetobacter PNA requiring
   amikacin/colisitn, also recent MRSA PNA treated with Vancomycin .  no
   evidence of PNA at this time
   - cont to monitor
   .
   # Acute on Chronic Renal Failure: Pt with history of AIN from colistin,
   Cr had improved to 1.5 now rising to 3.9, likely [**2-6**] dehydration from
   fevers/UTI.   FeNa on admission - 0.2% consistent with prerenal
   syndrome.  UOP decreased overnight which was responsive to IVF bolus
   but persistent rise in Cr
   -- monitor Is and Os
   -- trend Creatinine
   -- IVF bolus PRN
   - Renally dose meds
   -- If continued worsening of renal function, pt not likely candidate
   for initiation of HD, discuss at family meeting planned for tomorrow
   .
   # R [**Name (NI) **] Pain
 pt with tenderness of R shoulder and wrist today
   -obtain xray for eval
   - given hx of bacteremia also must consider possibility of septic joint
   .
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   .
   #. MS: Patient had a change in mental status along with his fevers,
   likely delirium related to infection
   -- cont to trend
   .
   # Respiratory Failure: has had a tracheostomy for 2 months.  was on
   tracheal mask at rehab but now placed back on assist control due to AMS
   in setting of infection.
   -- cont AC ventilation
   -- Albuterol/Atroven nebs PRN
   .
    #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
    .
    #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
    #. ANEMIA: Hx of chronic anemia.  Received 2uPRBC on admission
   - will transfuse 2U PRBC today for HCT 23.5
    .
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   .
   #. NUTRITION:
   -- Nutren Replete with fiber 75ml/hr as tolerated
   .
    #. PPX:
   -- DVT PPX with fondaparinox given h/o HIT
   -- PO omeprazole
   -- bowel regimen
   .
    #. ACCESS: Midline placed [**2168-2-15**] now DC'd, PIV X2, avoiding CVL given
   + Blood Cx
   .
   #. CODE: Full Code per HCP
   .
   #. CONSENT: HCP signed consent
   .
   # Comm: Family [**Name2 (NI) 4669**] planned for Tuesday
   .
   #. DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-2-15**] 03:21 PM
   18 Gauge - [**2169-2-20**] 02:06 AM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer: omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mr [**Known lastname 2919**] is now off pressors and has
   peripheraIV access for admnistration of all ABx including caspofungin.
   he appears uncomfortable but not in respiratory distress on AC
   ventilation. he has severe tenderness in RUE at shoulder and hand
   Exam notable for Tm  of 101. BP116/66  HR 100 RR 14-16 with sats of
   99% on 40% and Ac ventilation . he has developing edema pill rolling
   tremor in keeping with advanced PD.
   Labs notable for WBC 10.9 K, HCT of 24 , K+ of 4.5 , Cr  of 3.9 ( 3.4.
   CXR with diffuse ASD, effusions ( loculated) and cardiomegaly .Blood Cx
   of [**2-17**] also with yeast
   Agree with plan to continue Abx per ID recs. He will need repeat TEE
   and head CT when stable to help with overall discussion regarding
   prognosis since it appears he will be unlikely to clear bacteremia and
   fungemia with known vegetation. he is not considered a candidate for
   valvular surgery given severe comorbidity. HD will likely not help
   given infection issues and problems with ongoing fungemia which will
   make access severely problem[**Name (NI) 555**].
   he remains a full code at present but we will need to address this with
   PCP Dr [**Last Name (STitle) 2576**] and the family at the meeting on [**2-21**]
   Patient is critically ill
   Total time: 40min
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],M.D.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2169-2-20**] 11:56 AM ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);

2169-02-21 06:54:00 Physician Resident Progress Note
Chief Complaint: Fungemia
   24 Hour Events:
 URINE CULTURE - At [**2169-2-20**] 10:20 AM
 BLOOD CULTURED - At [**2169-2-20**] 10:30 AM
   drawn [**Last Name (un) 1426**] L PIV
   The patient continues to have worsening renal function with Cr of 4.1
   today
   Continues on caspofungin/vancomycin/meropenem
   Planned family meeting today
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-2-18**] 08:39 PM
   Caspofungin - [**2169-2-19**] 06:00 PM
   Meropenem - [**2169-2-20**] 01:59 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-2-20**] 08:00 AM
   Lansoprazole (Prevacid) - [**2169-2-20**] 08:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-21**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.5
C (99.5
   HR: 78 (78 - 98) bpm
   BP: 140/77(84) {96/43(56) - 140/77(114)} mmHg
   RR: 20 (17 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,161 mL
                                                                    764 mL
   PO:
             TF:
                                                                  1,803 mL
                                                                    516 mL
   IVF:
                                                                  1,340 mL
                                                                     69 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                    797 mL
                                                                    240 mL
   Urine:
                                                                    797 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,364 mL
                                                                    524 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ///13/
   Ve: 11.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   193 K/uL
   8.6 g/dL
   111
   4.1 mg/dL
   13 mEq/L
   5.3 mEq/L
   99 mg/dL
   110 mEq/L
   139 mEq/L
   26.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2169-2-16**]  04:04 AM
                             [**2169-2-17**]  03:31 AM
                             [**2169-2-17**]  05:47 PM
                             [**2169-2-18**]  12:21 AM
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
   WBC
   9.4
   12.2
   9.7
   10.9
   9.7
   10.8
   11.5
   Hct
   23.6
   20.9
   21.6
   25.3
   24.0
   23.0
   23.5
   26.9
   Plt
   130
   162
   150
   161
   171
   193
   Cr
   2.7
   3.1
   3.1
   3.0
   3.4
   3.9
   4.1
   TCO2
   19
   Glucose
   130
   114
   104
   124
   112
   107
   113
   111
   Other labs: PT / PTT / INR:15.6/38.5/1.4, ALT / AST:[**10-3**], Alk Phos / T
   Bili:68/0.3, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:207 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Imaging: [**2-20**] R shoulder -
   FINDINGS: This is an AP portable semi-upright film and is not in the
   typical
   orientation to evaluate the shoulder due to overlying soft tissue and
   patient
   positioning, the shoulder cannot be adequately assessed.
   [1][**2169-2-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [2][**2169-2-20**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2169-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [4][**2169-2-18**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   INPATIENT
   [5][**2169-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [6][**2169-2-17**]
   BRONCHOALVEOLAR LAVAGE
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY {ACINETOBACTER
   BAUMANNII COMPLEX, GRAM NEGATIVE ROD #2, STAPH AUREUS COAG +}; FUNGAL
   CULTURE-PRELIMINARY
   INPATIENT
   [7][**2169-2-17**]
   CATHETER TIP-IV
   WOUND CULTURE-FINAL
   INPATIENT
   [8][**2169-2-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {YEAST}; Aerobic Bottle Gram
   Stain-FINAL
   INPATIENT
   [9][**2169-2-16**]
   MRSA SCREEN
   MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN RESISTANT STAPH AUREUS}
   INPATIENT
   [10][**2169-2-16**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   INPATIENT
   [11][**2169-2-16**]
   SWAB
   R/O VANCOMYCIN RESISTANT ENTEROCOCCUS-FINAL {ENTEROCOCCUS SP.}
   INPATIENT
   [12][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [13][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {[**Female First Name (un) **] ALBICANS, PRESUMPTIVE
   IDENTIFICATION}; Aerobic Bottle Gram Stain-FINAL
   INPATIENT
   [14][**2169-2-15**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {PSEUDOMONAS AERUGINOSA,
   ACINETOBACTER BAUMANNII COMPLEX, STAPH AUREUS COAG +}; FUNGAL
   CULTURE-PRELIMINARY
   INPATIENT
   [15][**2169-2-15**]
   URINE
   URINE-GRAM STAIN - UNSPUN-FINAL; URINE CULTURE-FINAL {KLEBSIELLA
   PNEUMONIAE, YEAST}
   INPATIENT
   [16][**2169-2-15**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL {STAPHYLOCOCCUS, COAGULASE NEGATIVE};
   Anaerobic Bottle Gram Stain-FINAL; Aerobic Bottle Gram Stain-FINAL
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   Assessment and Plan
   67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR PNA who is
   admitted from [**Hospital 858**] Rehab with sepsis, found to have fungemia, Coag
   neg staph bacteremia as well as Klebsiella UTI. Pt was persistently
   febrile but Hemodynamically stable.
   .
   #. Sepsis: The pt has a history of recurrent MDR PNA as well as history
   of endocarditis. Recent admission with MRSA PNA, completed 14 day
   course of vancomycin on [**2-12**] now readmitted with fever. Blood cultures
   with yeast (prelim- C. albicans) and Coagulase negative Staph. Urine
   cultures with Klebsiella. Currently on Vanc/Meropenem/caspofungin.
   - cont Vanco/[**Last Name (un) 350**]/Caspofungin
   - Amikacin DC
d yest
   - Goal MAP >65
   - No pressor requirement at this time, responsive to IVF
   - appreciate ID recs
   .
   #. Fungemia
 unclear source at this time but urine vs PICC most
   likely.   Renal U/S negative for evidence of abscess.
   - 2/11&[**2-17**] blood cultures growing yeast
 awaiting final speciation
   prelim
 C.albicans
   - continue caspofungin, if final speciation C. albicans consider
   changing to fluconazole
   - will consult cards tomorrow for TEE
   .
   # Coagulase negative staph bacteremia
 Likely line related infection
   from PICC.
   - Continue Vancomycin dosed by level (goal trough 15-20)
   - follow surveillance cultures
   - all central lines DC
   .
   # Klebsiella pneumoniae UTI - (ESBL +) Amikacin DC
d yest. Continue
   meropenem, subsequent urine cultures cleared
   - dose meropenem 500 Q24 given renal failure, infuse over 4 hours
   - follow up ID recs
   .
   # Hx MDR PNA - Hx of Pseudomonas and Acinetobacter PNA requiring
   amikacin/colisitn, also recent MRSA PNA treated with Vancomycin .  no
   evidence of PNA at this time
   - cont to monitor
   .
   # Acute on Chronic Renal Failure: Pt with history of AIN from colistin,
   Cr had improved to 1.5 now rising to 3.9, likely [**2-6**] dehydration from
   fevers/UTI.   FeNa on admission - 0.2% consistent with prerenal
   syndrome.  UOP decreased overnight which was responsive to IVF bolus
   but persistent rise in Cr
   -- monitor Is and Os
   -- trend Creatinine
   -- IVF bolus PRN
   - Renally dose meds
   -- If continued worsening of renal function, pt not likely candidate
   for initiation of HD, discuss at family meeting planned for tomorrow
   .
   # R [**Name (NI) **] Pain
 pt with tenderness of R shoulder and wrist today
   -obtain xray for eval
   - given hx of bacteremia also must consider possibility of septic joint
   .
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   .
   #. MS: Patient had a change in mental status along with his fevers,
   likely delirium related to infection
   -- cont to trend
   .
   # Respiratory Failure: has had a tracheostomy for 2 months.  was on
   tracheal mask at rehab but now placed back on assist control due to AMS
   in setting of infection.
   -- cont AC ventilation
   -- Albuterol/Atroven nebs PRN
   .
    #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
    .
    #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
    #. ANEMIA: Hx of chronic anemia.  Received 2uPRBC on admission
   - will transfuse 2U PRBC today for HCT 23.5
    .
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   .
   #. NUTRITION:
   -- Nutren Replete with fiber 75ml/hr as tolerated
   .
    #. PPX:
   -- DVT PPX with fondaparinox given h/o HIT
   -- PO omeprazole
   -- bowel regimen
   .
    #. ACCESS: Midline placed [**2168-2-15**] now DC'd, PIV X2, avoiding CVL given
   + Blood Cx
   .
   #. CODE: Full Code per HCP
   .
   #. CONSENT: HCP signed consent
   .
   # Comm: Family [**Name2 (NI) 4669**] planned for Tuesday
   .
   #. DISPO: pending above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-20**] 07:14 PM 75 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-2-20**] 02:06 AM
   Prophylaxis:
   DVT: (fondaparinux)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);
  11. JavaScript:parent.POPUP(self,%22_WEBTAG=_11%22,640,400,50,50,1);
  12. JavaScript:parent.POPUP(self,%22_WEBTAG=_12%22,640,400,50,50,1);
  13. JavaScript:parent.POPUP(self,%22_WEBTAG=_13%22,640,400,50,50,1);
  14. JavaScript:parent.POPUP(self,%22_WEBTAG=_14%22,640,400,50,50,1);
  15. JavaScript:parent.POPUP(self,%22_WEBTAG=_15%22,640,400,50,50,1);
  16. JavaScript:parent.POPUP(self,%22_WEBTAG=_16%22,640,400,50,50,1);

2169-02-21 10:26:00 Physician Attending Progress Note
Chief Complaint: Mutiple drug resistent infections
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: worsening renal function with Cr 4.1 today. Continues on
   caspofungin/vancomycin/meropenem
   24 Hour Events:
 URINE CULTURE - At [**2169-2-20**] 10:20 AM
 BLOOD CULTURED - At [**2169-2-20**] 10:30 AM
   drawn from L PIV
   Worsening renal function
   Family meeting today re: goals of care given progressive decline with
   fungemia
   History obtained from Medical records
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Amikacin - [**2169-2-18**] 08:39 PM
   Caspofungin - [**2169-2-19**] 06:00 PM
   Meropenem - [**2169-2-20**] 01:59 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-21**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.9
   HR: 81 (78 - 94) bpm
   BP: 110/58(70) {96/43(56) - 140/77(114)} mmHg
   RR: 29 (17 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  4,161 mL
                                                                  1,182 mL
   PO:
             TF:
                                                                  1,803 mL
                                                                    751 mL
   IVF:
                                                                  1,340 mL
                                                                    100 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                    797 mL
                                                                    375 mL
   Urine:
                                                                    797 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,364 mL
                                                                    807 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: ///13/
   Ve: 15 L/min
   Physical Examination
   General Appearance: chr tremulous due to parkinsons, pain on hand movt
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.6 g/dL
   193 K/uL
   111
   4.1 mg/dL
   13 mEq/L
   5.3 mEq/L
   99 mg/dL
   110 mEq/L
   139 mEq/L
   26.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2169-2-16**]  04:04 AM
                             [**2169-2-17**]  03:31 AM
                             [**2169-2-17**]  05:47 PM
                             [**2169-2-18**]  12:21 AM
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
   WBC
   9.4
   12.2
   9.7
   10.9
   9.7
   10.8
   11.5
   Hct
   23.6
   20.9
   21.6
   25.3
   24.0
   23.0
   23.5
   26.9
   Plt
   130
   162
   150
   161
   171
   193
   Cr
   2.7
   3.1
   3.1
   3.0
   3.4
   3.9
   4.1
   TCO2
   19
   Glucose
   130
   114
   104
   124
   112
   107
   113
   111
   Other labs: PT / PTT / INR:15.6/38.5/1.4, ALT / AST:[**10-3**], Alk Phos / T
   Bili:68/0.3, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:207 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4: 6.2 mg/dL
   Microbiology: BAL: colonization acinetobacter
   Blood cx [**2-15**]: [**Female First Name (un) 474**] albicans
   ECG: pend
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
   Complicated course. 67 y/o M with hx of ESBL Kleb, MRSA, VRE,
   acinetobacter colonization, trached, with fungemia and coag neg staph
   bacteremia and Klebsiella UTI
   ID: Vanc for coag neg staph bacteremia, [**Last Name (un) **] for Klebsiella UTI, caspo
   for candidemia. Continue surveillance cxs. Has peripherals iv only.
   Ophthal eval. check [**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 4701**].
   Cards: consult to obtain TEE for prognotication. Check daily EKG.
   Renal/Electrolyte disturbance: worsening Cr, hyperkalemia,
   hyperphosphatemia, check urine eos. Fena 1.1. Watch electrolytes [**Hospital1 **].
   Renal consult if family agreeable to HD. Manage medically till then.
   Phos binder.
   Hand pain: ? contractures, OT consult. Check hand Xray. Doesn
t look
   like septic joint, but watch.
   Delirium: manage medically.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-2-21**] 08:17 AM 75 mL/hour
   Comments: Change to renal TF, nutrition consult
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2169-2-20**] 02:06 AM
   22 Gauge - [**2169-2-21**] 09:30 AM
   Prophylaxis:
   DVT: Boots(Cant give fondoparinaux due to renal failure and HIT +)
   Stress ulcer: PPI
   Communication: Family meeting to be held today
   Code status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2169-02-22 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EKG - At [**2169-2-21**] 10:47 AM
   - TEE set up for [**2-22**]
   - Optho consulted - negative exam
   - worsening renal failure with electrolyte abnormalities - kayexalate
   and seveler started.  Aseptic pyuria with nearly 300 WBCs
   - fondaparinux discontinued because of worsening renal failure
   - Team meeting:  No pressors, no dialysis.  Family to continue
   discussing CMO without antibiotics.  Will not consider extubation.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Meropenem - [**2169-2-21**] 02:53 PM
   Caspofungin - [**2169-2-21**] 04:46 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-22**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.8
C (98.2
   HR: 88 (76 - 93) bpm
   BP: 92/42(55) {86/40(53) - 124/83(106)} mmHg
   RR: 26 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,446 mL
                                                                    161 mL
   PO:
             TF:
                                                                  1,896 mL
                                                                     25 mL
   IVF:
                                                                    590 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    445 mL
   Urine:
                                                                  1,085 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,361 mL
                                                                   -284 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 406 (406 - 406) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 13 cmH2O
   Plateau: 20 cmH2O
   Compliance: 27.9 cmH2O/mL
   SpO2: 100%
   ABG: ///17/
   Ve: 11.9 L/min
   Physical Examination
   Gen: tremor, does not follow commands
   HEENT: dry MM
   cv: rrr, no m/r/g
   pulm: diffuse rhonchi in ant lung fields
   abd: s/nt/nd/nabs
   extr: RUE swelling.  TTP right wrist.
   neuro: does not respond to voice
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   204 K/uL
   8.5 g/dL
   95 mg/dL
   4.0 mg/dL
   17 mEq/L
   4.8 mEq/L
   99 mg/dL
   111 mEq/L
   140 mEq/L
   26.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2169-2-17**]  05:47 PM
                             [**2169-2-18**]  12:21 AM
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
   WBC
   9.7
   10.9
   9.7
   10.8
   11.5
   10.5
   Hct
   21.6
   25.3
   24.0
   23.0
   23.5
   26.9
   26.4
   Plt
   150
   161
   171
   193
   204
   Cr
   3.1
   3.0
   3.4
   3.9
   4.1
   4.3
   4.0
   TCO2
   19
   Glucose
   104
   124
   112
   107
   113
   111
   109
   95
   Other labs: PT / PTT / INR:15.9/38.5/1.4, ALT / AST:29/56, Alk Phos / T
   Bili:100/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:207 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR PNA who is
   admitted from [**Hospital 858**] Rehab with sepsis, found to have fungemia, Coag
   neg staph bacteremia as well as Klebsiella UTI. Pt was persistently
   febrile but Hemodynamically stable.
   .
   #. Sepsis: The pt has a history of recurrent MDR PNA as well as history
   of endocarditis. Recent admission with MRSA PNA, completed 14 day
   course of vancomycin on [**2-12**] now readmitted with fever. Blood cultures
   with yeast (prelim- C. albicans) and Coagulase negative Staph. Urine
   cultures with Klebsiella. Currently on Vanc/Meropenem/caspofungin.
   Amikacin DC
d [**2-20**].
   - cont Vanco
   - will change caspo to fluconazole as [**Female First Name (un) 474**] is responsive to
   fluconazole and pt has ARF
   - will dicontinue meropenem as patient has completed course for UTI
   - Goal MAP >65
   - No pressor requirement at this time, responsive to IVF, family does
   not want to start pressors
   - appreciate ID recs
   .
   # Acute on Chronic Renal Failure: Pt with history of AIN from colistin,
   Cr had improved to 1.5 now rising to > 4.0, likely [**2-6**] dehydration from
   fevers/UTI vs AIN.   Has pyuria without bacteria on UA, suggesting AIN
   or pyonephritis.  Now also with electrolyte abnormalities
 elevated K
   and phos.
   -- monitor Is and Os
   -- trend Creatinine
   -- IVF bolus PRN
   - Renally dose meds
   - kayexalate prn, phosphate binder
   - pt not likely candidate for initiation of HD, discuss at family
   meeting planned for today
   .
   #. Fungemia
 unclear source at this time but urine vs PICC most
   likely.   Renal U/S negative for evidence of abscess.
   - 2/11&[**2-17**] blood cultures growing C.albicans
   - will switch caspofungin to fluconazole as above
   - family to decide whether to go ahead with TEE given high risk
   procedure with his low BP and parkinsonian tremors
   .
   # Coagulase negative staph bacteremia
 Likely line related infection
   from PICC.
   - Continue Vancomycin dosed by level (goal trough 15-20)
   - follow surveillance cultures
   - all central lines DC
   .
   # Klebsiella pneumoniae UTI - (ESBL +) subsequent urine cultures
   cleared
   - [**First Name9 (NamePattern2) 4719**] [**Last Name (un) **] as above
   - follow up ID recs
   .
   # Hx MDR PNA - Hx of Pseudomonas and Acinetobacter PNA requiring
   amikacin/colisitn, also recent MRSA PNA treated with Vancomycin .  no
   evidence of PNA at this time
   - cont to monitor
   .
   # R [**Name (NI) **] Pain
 pt with tenderness of R wrist.  Suspect contracture vs
   acute injury.  Does not appear to be septic joint, though must keep in
   differential.
   - symptomatic control
   .
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   .
   #. MS: Patient had a change in mental status along with his fevers,
   likely delirium related to infection and worsening parkinsons in acute
   stress.
   -- cont to trend
   .
   # Respiratory Failure: has had a tracheostomy for 2 months.  was on
   tracheal mask at rehab but now placed back on assist control due to AMS
   in setting of infection.
   -- cont AC ventilation
   -- Albuterol/Atroven nebs PRN
   .
    #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
    .
    #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
    #. ANEMIA: Hx of chronic anemia.  Received 2uPRBC and again on [**2-20**].
   - follow
    .
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   .
   #. NUTRITION:
   -- Nutren Replete with fiber 75ml/hr as tolerated
   .
    #. PPX:
   -- h/o HIT  and renal failure keeps us from using heparin or
   fundaparinox.  Pneumoboots.
   -- PO omeprazole
   -- bowel regimen
   .
    #. ACCESS: Midline placed [**2168-2-15**] now DC'd, PIV X2, avoiding CVL given
   + Blood Cx
   .
   #. CODE: DNR no pressors/HD after family meeting on [**2169-2-21**].
   .
   #. CONSENT: HCP signed consent
   .
   # Comm: HCP
   .
   #. DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-2-20**] 02:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-02-22 09:56:00 Physician Attending Progress Note
Chief Complaint: Multiple
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2169-2-21**] 10:47 AM
   TEE today
   Ophthal consult: no fungal spots
   Fondoparinaux discontinued due to renal failure.
   Family meeting: DNR, no dialysis, no pressors.
   SBP 70 responded to fluid bolus
   ETT secretions improved.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Meropenem - [**2169-2-21**] 02:53 PM
   Caspofungin - [**2169-2-21**] 04:46 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-22**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.6
   HR: 88 (76 - 93) bpm
   BP: 100/58(68) {77/18(33) - 124/83(106)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,446 mL
                                                                    614 mL
   PO:
             TF:
                                                                  1,896 mL
                                                                     25 mL
   IVF:
                                                                    590 mL
                                                                    529 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    605 mL
   Urine:
                                                                  1,085 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,361 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 406 (406 - 406) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 62
   PIP: 32 cmH2O
   Plateau: 20 cmH2O
   Compliance: 27.9 cmH2O/mL
   SpO2: 100%
   ABG: ///17/
   Ve: 12.9 L/min
   Physical Examination
   General Appearance: chr tremulous due to parkinsons, grimacing on hand
   movt
   Eyes / Conjunctiva: pupils equal
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 4+ pitting edema, scrotal edema
   Skin:  clear
   Neurologic: cog wheel rigidity, not awake/alert
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   204 K/uL
   95 mg/dL
   4.0 mg/dL
   17 mEq/L
   4.8 mEq/L
   99 mg/dL
   111 mEq/L
   140 mEq/L
   26.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2169-2-17**]  05:47 PM
                             [**2169-2-18**]  12:21 AM
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
   WBC
   9.7
   10.9
   9.7
   10.8
   11.5
   10.5
   Hct
   21.6
   25.3
   24.0
   23.0
   23.5
   26.9
   26.4
   Plt
   150
   161
   171
   193
   204
   Cr
   3.1
   3.0
   3.4
   3.9
   4.1
   4.3
   4.0
   TCO2
   19
   Glucose
   104
   124
   112
   107
   113
   111
   109
   95
   Other labs: PT / PTT / INR:15.9/38.5/1.4, ALT / AST:29/56, Alk Phos / T
   Bili:100/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:207 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:6.1 mg/dL
   Fluid analysis / Other labs: + urine eos: rare
   Vanc level 20
   Fena 1.5
   UA with persistent pyuria
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
    67 y/o M with hx of ESBL Kleb, MRSA, VRE, acinetobacter colonization,
   trached, with fungemia and coag neg staph bacteremia and Klebsiella
   UTI, altered mental status
   ID: Vanc for coag neg staph bacteremia, [**Last Name (un) **] for Klebsiella UTI (will
   stop today as completed 7 day course for complicated UTI), caspo for
   candidemia. Switch caspo to fluconazole since sensitive. Continue
   surveillance cxs. Has peripherals iv only. TEE today for
   prognostication. Low threshold to stop procedure if he develops
   hypotension. Will d/w family regarding risk for hypotension with
   sedation for procedure.
   Cards: Check daily EKG.
   Acute renal failure/Electrolyte disturbance: Cr slowly improving
   slightly this am. Good UO. Follow lytes. No dialysis per family
   discussion yesterday.
   Hand pain: no e/o infection, likely related to contractures, on
   morphine prn.
   Delirium: multifactorial from renal failure, meds and underlying
   Parkinson
   R brachial DVT: not being Rxed since distal, and associated with picc
   line.
   Rest per resident note
   ICU Care
   Nutrition:
   tolerating renal feeds
   Glycemic Control:  Regular insulin sliding scale + lantus
   Lines:
   18 Gauge - [**2169-2-20**] 02:06 AM
   22 Gauge - [**2169-2-22**] 08:17 AM
   Prophylaxis:
   DVT: Boots(off faundo due to renal failure, Hx of HIT)
   Stress ulcer: PPI
   VAP:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)/no dialysis/no pressors
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2169-02-23 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TEE cancelled after further discussion with family
   - Vancomycin and Meropenem discontinued
   - Simvastatin & Vitamin D discontinued
   - Caspofungin changed to Fluconazole
   - UA with hyphae elements; attempted to change foley, but unsuccessful
   - BP's in 80's, unresponsive to IVF
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Meropenem - [**2169-2-21**] 02:53 PM
   Caspofungin - [**2169-2-21**] 04:46 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-23**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100
   HR: 81 (72 - 93) bpm
   BP: 83/51(59) {77/18(33) - 101/66(73)} mmHg
   RR: 16 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,717 mL
                                                                    914 mL
   PO:
             TF:
                                                                    437 mL
                                                                     89 mL
   IVF:
                                                                    740 mL
                                                                    826 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    520 mL
   Urine:
                                                                  1,555 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    162 mL
                                                                    394 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 100%
   ABG: ///19/
   Ve: 10.2 L/min
   Physical Examination
   Gen: tremor, does not follow commands, anasarca
   HEENT: dry MM
   cv: rrr, no m/r/g
   pulm: diffuse rhonchi in ant lung fields
   abd: s/nt/nd/nabs
   extr: RUE swelling.  TTP right wrist.
   neuro: does not respond to voice
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   8.3 g/dL
   104 mg/dL
   4.0 mg/dL
   19 mEq/L
   4.6 mEq/L
   100 mg/dL
   112 mEq/L
   144 mEq/L
   25.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2169-2-18**]  12:21 AM
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
                             [**2169-2-23**]  03:19 AM
   WBC
   10.9
   9.7
   10.8
   11.5
   10.5
   13.1
   Hct
   25.3
   24.0
   23.0
   23.5
   26.9
   26.4
   25.6
   Plt
   150
   161
   171
   193
   204
   215
   Cr
   3.0
   3.4
   3.9
   4.1
   4.3
   4.0
   4.0
   TCO2
   19
   Glucose
   124
   112
   107
   113
   111
   109
   95
   104
   Other labs: PT / PTT / INR:16.0/39.7/1.4, ALT / AST:29/56, Alk Phos / T
   Bili:100/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:207 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR PNA who is
   admitted from [**Hospital 858**] Rehab with sepsis, found to have fungemia, Coag
   neg staph bacteremia as well as Klebsiella UTI. Pt was persistently
   febrile but Hemodynamically stable.
   .
   #. Sepsis: The pt has a history of recurrent MDR PNA as well as history
   of endocarditis. Recent admission with MRSA PNA, completed 14 day
   course of vancomycin on [**2-12**] now readmitted with fever. Blood cultures
   with yeast (prelim- C. albicans) and Coagulase negative Staph. Urine
   cultures with Klebsiella. Initially treated with
   Vanc/Meropenem/caspofungin.  Amikacin DC
d [**2-20**].
   - Vanc discontinued as surveillance cultures negative for CNS
   - changed caspo to fluconazole as [**Female First Name (un) 474**] is responsive to fluconazole
   and pt has ARF
   - will dicontinue meropenem as patient has completed course for UTI
   - Goal MAP >65
   - family does not want to start pressors
   - appreciate ID recs
   .
   # Acute on Chronic Renal Failure: Pt with history of AIN from colistin,
   Cr had improved to 1.5 now rising to > 4.0, likely [**2-6**] dehydration from
   fevers/UTI vs AIN.   Transiently had pyuria without bacteria on UA, but
   has yeast now.  His ARF may be secondary to AIN or ATN or pyonephritis.
    Renal US without abscess or obstruction.  Now also with electrolyte
   abnormalities
 elevated phos.
   -- monitor Is and Os
   -- trend Creatinine
   -- IVF bolus PRN
   - Renally dose meds
   - kayexalate prn, phosphate binder
   - pt not likely candidate for initiation of HD, discussed with family
   .
   #. Fungemia
 unclear source at this time but urine vs PICC most
   likely.   Renal U/S negative for evidence of abscess.
   - 2/11&[**2-17**] blood cultures growing C.albicans
   - fluconazole as above
   - will not proceed with TEE after family meeting
   .
   # Coagulase negative staph bacteremia
 Likely line related infection
   from PICC.
   - completed vanc
   - follow surveillance cultures
   - all central lines DC
   .
   # Klebsiella pneumoniae UTI - (ESBL +) subsequent urine cultures
   cleared
   - completed [**Last Name (un) **] as above
   - follow up ID recs
   .
   # Hx MDR PNA - Hx of Pseudomonas and Acinetobacter PNA requiring
   amikacin/colisitn, also recent MRSA PNA treated with Vancomycin .  no
   evidence of PNA at this time
   - cont to monitor
   .
   # R [**Name (NI) **] Pain
 pt with tenderness of R wrist.  Suspect contracture vs
   acute injury.  Does not appear to be septic joint, though must keep in
   differential.
   - symptomatic control
   .
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   .
   #. MS: Patient had a change in mental status along with his fevers,
   likely delirium related to infection and worsening parkinsons in acute
   stress.
   -- cont to trend
   .
   # Respiratory Failure: has had a tracheostomy for 2 months.  was on
   tracheal mask at rehab but now placed back on assist control due to AMS
   in setting of infection.
   -- cont AC ventilation
   -- Albuterol/Atroven nebs PRN
   .
    #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
    .
    #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
    #. ANEMIA: Hx of chronic anemia.  Received 2uPRBC and again on [**2-20**].
   - follow
    .
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   .
   #. NUTRITION:
   -- Nutren Replete with fiber 75ml/hr as tolerated
   .
    #. PPX:
   -- h/o HIT  and renal failure keeps us from using heparin or
   fundaparinox.  Pneumoboots.
   -- PO omeprazole
   -- bowel regimen
   .
    #. ACCESS: Midline placed [**2168-2-15**] now DC'd, PIV X2, avoiding CVL given
   + Blood Cx
   .
   #. CODE: DNR no pressors/HD after family meeting on [**2169-2-21**].
   .
   #. CONSENT: HCP signed consent
   .
   # Comm: HCP
   .
   #. DISPO: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-2-20**] 02:06 AM
   22 Gauge - [**2169-2-23**] 12:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-02-23 11:15:00 Physician Attending Progress Note
Chief Complaint: Fungemia, altered mental status, resp failure.
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 EKG - At [**2169-2-22**] 08:35 AM
 FEVER - 101.1
F - [**2169-2-22**] 03:00 PM
   TEE cancelled due to low SBP, unresponsive to fluids intermittently
   Vanc and [**Last Name (un) 350**] discontinued.
   UA with hyphae, but unable to change foley due to scrotal edema
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Meropenem - [**2169-2-21**] 02:53 PM
   Caspofungin - [**2169-2-21**] 04:46 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-23**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 84 (72 - 90) bpm
   BP: 92/60(69) {80/41(50) - 101/66(73)} mmHg
   RR: 23 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,717 mL
                                                                  1,509 mL
   PO:
             TF:
                                                                    437 mL
                                                                    439 mL
   IVF:
                                                                    740 mL
                                                                    860 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                    890 mL
   Urine:
                                                                  1,555 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    162 mL
                                                                    619 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 100%
   ABG: ///19/
   Ve: 11.3 L/min
   Physical Examination
   General Appearance: chr tremulous due to parkinsons, grimacing on hand
   mvt
   Eyes / Conjunctiva: pupils equal
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 4+ pitting edema, scrotal edema
   Skin:  clear
   Neurologic: cog wheel rigidity, not awake/alert, does not respond to
   verbal stimuli, opens eyes, not tracking
   Labs / Radiology
   8.3 g/dL
   215 K/uL
   104 mg/dL
   4.0 mg/dL
   19 mEq/L
   4.6 mEq/L
   100 mg/dL
   112 mEq/L
   144 mEq/L
   25.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2169-2-18**]  12:21 AM
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
                             [**2169-2-23**]  03:19 AM
   WBC
   10.9
   9.7
   10.8
   11.5
   10.5
   13.1
   Hct
   25.3
   24.0
   23.0
   23.5
   26.9
   26.4
   25.6
   Plt
   150
   161
   171
   193
   204
   215
   Cr
   3.0
   3.4
   3.9
   4.1
   4.3
   4.0
   4.0
   TCO2
   19
   Glucose
   124
   112
   107
   113
   111
   109
   95
   104
   Other labs: PT / PTT / INR:16.0/39.7/1.4, ALT / AST:29/56, Alk Phos / T
   Bili:100/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:207 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:6.0 mg/dL
   Microbiology: UA: hyphae, WBC > 50
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
   67 y/o M with hx of ESBL Kleb, MRSA, VRE, acinetobacter colonization,
   trached, with fungemia and coag neg staph bacteremia and Klebsiella
   UTI, altered mental status
   ID: Off Vanc and [**Last Name (un) **], only on fluconazole, unable to change foley due
   to scrotal edema, borderline SBP, will send surveillance fungal cxs
   Cards: Likely endocarditis, but not able to confirm
   Acute/Chronic resp failure: stable but remains vent dependent. Now
   growing pseudomonas in [**2-17**] BAL
   Acute renal failure/Electrolyte disturbance: Cr stable at 4.0. Good UO.
   Follow lytes. No dialysis per family discussion.
   Tremors/rigidity and pain: morphine and Ativan prn
   Hypernatremia: free water down feeding tube, trend
   Delirium: multifactorial from renal failure, infection and underlying
   Parkinson
   R brachial DVT: not being Rxed since distal, and associated with picc
   line.
   Rest per resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2169-2-23**] 02:13 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: lantus
   Lines:
   18 Gauge - [**2169-2-20**] 02:06 AM
   22 Gauge - [**2169-2-23**] 12:13 AM
   Prophylaxis:
   DVT: Boots(off faundo due to renal failure, Hx of HIT)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)/no dialysis/no pressors
   Disposition :ICU
   Total time spent: 30
   Patient is critically ill

2169-02-24 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID signed off, patient may be on fluconazole indefinitely, need to
   check LFTs every week
   - right wrist Xray does not show any fracture
   - CXR without any acute process
   - morphine prior to moving the patient
   - pressure support overnight
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Meropenem - [**2169-2-21**] 02:53 PM
   Caspofungin - [**2169-2-21**] 04:46 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-2-23**] 01:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-24**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.9
C (100.2
   HR: 77 (76 - 89) bpm
   BP: 84/52(59) {79/43(54) - 106/69(74)} mmHg
   RR: 31 (15 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,620 mL
                                                                    371 mL
   PO:
             TF:
                                                                    960 mL
                                                                    249 mL
   IVF:
                                                                    990 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    500 mL
   Urine:
                                                                  1,870 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    750 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 521 (420 - 521) mL
   PS : 7 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///19/
   Ve: 12 L/min
   Physical Examination
   Gen: tremor, does not follow commands, anasarca
   HEENT: dry MM
   cv: rrr, no m/r/g
   pulm: diffuse rhonchi in ant lung fields
   abd: s/nt/nd/nabs
   extr: RUE swelling.  TTP right wrist.
   neuro: does not respond to voice
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   223 K/uL
   8.0 g/dL
   112 mg/dL
   3.9 mg/dL
   19 mEq/L
   4.6 mEq/L
   99 mg/dL
   113 mEq/L
   143 mEq/L
   24.8 %
   14.3 K/uL
        [image002.jpg]
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
                             [**2169-2-23**]  03:19 AM
                             [**2169-2-24**]  03:56 AM
   WBC
   10.9
   9.7
   10.8
   11.5
   10.5
   13.1
   14.3
   Hct
   24.0
   23.0
   23.5
   26.9
   26.4
   25.6
   24.8
   Plt
   150
   161
   171
   193
   204
   215
   223
   Cr
   3.0
   3.4
   3.9
   4.1
   4.3
   4.0
   4.0
   3.9
   TCO2
   19
   Glucose
   124
   112
   107
   113
   111
   109
   95
   104
   112
   Other labs: PT / PTT / INR:16.0/39.7/1.4, ALT / AST:19/32, Alk Phos / T
   Bili:81/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:263 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR PNA who is
   admitted from [**Hospital 858**] Rehab with sepsis, found to have fungemia, Coag
   neg staph bacteremia as well as Klebsiella UTI. Pt was persistently
   febrile but Hemodynamically stable.
   .
   #. Sepsis: The pt has a history of recurrent MDR PNA as well as history
   of endocarditis. Recent admission with MRSA PNA, completed 14 day
   course of vancomycin on [**2-12**] now readmitted with fever. Blood cultures
   with yeast (prelim- C. albicans) and Coagulase negative Staph. Urine
   cultures with Klebsiella. Initially treated with
   Vanc/Meropenem/caspofungin.  Amikacin DC
d [**2-20**].
   - Vanc discontinued as surveillance cultures negative for CNS
   - changed caspo to fluconazole as [**Female First Name (un) 474**] is responsive to fluconazole
   and pt has ARF, may need to be on fluconazole for a long period.
   - discontinued  meropenem as patient has completed course for UTI
   - Goal MAP >65
   - family does not want to start pressors
   - appreciate ID recs
   .
   # Acute on Chronic Renal Failure: Pt with history of AIN from colistin,
   Cr had improved to 1.5 then rose to > 4.0, likely [**2-6**] dehydration from
   fevers/UTI vs AIN.   Transiently had pyuria without bacteria on UA, but
   has yeast now.  His ARF may be secondary to AIN or ATN or
   pyonephritis.  Renal US without abscess or obstruction.  Now also with
   electrolyte abnormalities
 elevated phos.
   -- monitor Is and Os, currently making urine
   -- trend Creatinine, stable around 4
   -- IVF bolus PRN
   - Renally dose meds
   - kayexalate prn, phosphate binder
   - pt not likely candidate for initiation of HD, discussed with family
   .
   #. Fungemia
 unclear source at this time but urine vs PICC most
   likely.   Renal U/S negative for evidence of abscess.
   - 2/11&[**2-17**] blood cultures growing C.albicans
   - fluconazole as above
   - will not proceed with TEE after family meeting
   .
   # Coagulase negative staph bacteremia
 Likely line related infection
   from PICC.
   - completed vanc
   - follow surveillance cultures
   - all central lines DC
   .
   # Klebsiella pneumoniae UTI - (ESBL +) subsequent urine cultures
   cleared
   - completed [**Last Name (un) **] as above
   - follow up ID recs
   .
   # Hx MDR PNA - Hx of Pseudomonas and Acinetobacter PNA requiring
   amikacin/colisitn, also recent MRSA PNA treated with Vancomycin .  no
   evidence of PNA at this time
   - cont to monitor
   .
   # R [**Name (NI) **] Pain
 pt with tenderness of R wrist.  Suspect contracture vs
   acute injury.  Does not appear to be septic joint, though must keep in
   differential. Xrays negative fractures.
   -          symptomatic control
   -          lido patch
   .
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   .
   #. MS: Patient had a change in mental status along with his fevers,
   likely delirium related to infection and worsening parkinsons in acute
   stress.
   -- cont to trend
   .
   # Respiratory Failure: has had a tracheostomy for 2 months.  was on
   tracheal mask at rehab but now placed back on assist control due to AMS
   in setting of infection.
   -- cont AC ventilation
   -- Albuterol/Atroven nebs PRN
   .
    #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
    .
    #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
    #. ANEMIA: Hx of chronic anemia.  Received 2uPRBC and again on [**2-20**].
   - follow
    .
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   .
   #. NUTRITION:
   -- Nutren Replete with fiber 75ml/hr as tolerated
   .
    #. PPX:
   -- h/o HIT  and renal failure keeps us from using heparin or
   fundaparinox.  Pneumoboots.
   -- PO omeprazole
   -- bowel regimen
   .
    #. ACCESS: Midline placed [**2168-2-15**] now DC'd, PIV X2, avoiding CVL given
   + Blood Cx
   .
   #. CODE: DNR no pressors/HD after family meeting on [**2169-2-21**].
   .
   #. CONSENT: HCP signed consent
   .
   # Comm: HCP
   .
   #. DISPO: pending above
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2169-2-24**] 03:09 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-2-20**] 02:06 AM
   22 Gauge - [**2169-2-23**] 12:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-02-24 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2169-2-23**] 12:00 PM
   - ID signed off, patient may be on fluconazole indefinitely, need to
   check LFTs every week
   - right wrist Xray does not show any fracture
   - CXR without any acute process
   - morphine prior to moving the patient
   - pressure support overnight
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Meropenem - [**2169-2-21**] 02:53 PM
   Caspofungin - [**2169-2-21**] 04:46 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-2-23**] 01:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-24**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.9
C (100.2
   HR: 77 (76 - 89) bpm
   BP: 84/52(59) {79/43(54) - 106/69(74)} mmHg
   RR: 31 (15 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,620 mL
                                                                    423 mL
   PO:
             TF:
                                                                    960 mL
                                                                    291 mL
   IVF:
                                                                    990 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    500 mL
   Urine:
                                                                  1,870 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    750 mL
                                                                    -77 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 523 (420 - 523) mL
   PS : 7 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///19/
   Ve: 12 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   223 K/uL
   8.0 g/dL
   112 mg/dL
   3.9 mg/dL
   19 mEq/L
   4.6 mEq/L
   99 mg/dL
   113 mEq/L
   143 mEq/L
   24.8 %
   14.3 K/uL
        [image002.jpg]
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
                             [**2169-2-23**]  03:19 AM
                             [**2169-2-24**]  03:56 AM
   WBC
   10.9
   9.7
   10.8
   11.5
   10.5
   13.1
   14.3
   Hct
   24.0
   23.0
   23.5
   26.9
   26.4
   25.6
   24.8
   Plt
   150
   161
   171
   193
   204
   215
   223
   Cr
   3.0
   3.4
   3.9
   4.1
   4.3
   4.0
   4.0
   3.9
   TCO2
   19
   Glucose
   124
   112
   107
   113
   111
   109
   95
   104
   112
   Other labs: PT / PTT / INR:15.6/39.5/1.4, ALT / AST:19/32, Alk Phos / T
   Bili:81/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:263 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR PNA who is
   admitted from [**Hospital 858**] Rehab with sepsis, found to have fungemia, Coag
   neg staph bacteremia as well as Klebsiella UTI. Pt was persistently
   febrile but Hemodynamically stable.
   .
   #. Sepsis: The pt has a history of recurrent MDR PNA as well as history
   of endocarditis. Recent admission with MRSA PNA, completed 14 day
   course of vancomycin on [**2-12**] now readmitted with fever. Blood cultures
   with yeast (prelim- C. albicans) and Coagulase negative Staph. Urine
   cultures with Klebsiella. Initially treated with
   Vanc/Meropenem/caspofungin.  Amikacin DC
d [**2-20**].
   - Vanc discontinued as surveillance cultures negative for CNS
   - changed caspo to fluconazole as [**Female First Name (un) 474**] is responsive to fluconazole
   and pt has ARF
   - will dicontinue meropenem as patient has completed course for UTI
   - Goal MAP >65
   - family does not want to start pressors
   - appreciate ID recs
   .
   # Acute on Chronic Renal Failure: Pt with history of AIN from colistin,
   Cr had improved to 1.5 now rising to > 4.0, likely [**2-6**] dehydration from
   fevers/UTI vs AIN.   Transiently had pyuria without bacteria on UA, but
   has yeast now.  His ARF may be secondary to AIN or ATN or
   pyonephritis.  Renal US without abscess or obstruction.  Now also with
   electrolyte abnormalities
 elevated phos.
   -- monitor Is and Os
   -- trend Creatinine
   -- IVF bolus PRN
   - Renally dose meds
   - kayexalate prn, phosphate binder
   - pt not likely candidate for initiation of HD, discussed with family
   .
   #. Fungemia
 unclear source at this time but urine vs PICC most
   likely.   Renal U/S negative for evidence of abscess.
   - 2/11&[**2-17**] blood cultures growing C.albicans
   - fluconazole as above
   - will not proceed with TEE after family meeting
   .
   # Coagulase negative staph bacteremia
 Likely line related infection
   from PICC.
   - completed vanc
   - follow surveillance cultures
   - all central lines DC
   .
   # Klebsiella pneumoniae UTI - (ESBL +) subsequent urine cultures
   cleared
   - completed [**Last Name (un) **] as above
   - follow up ID recs
   .
   # Hx MDR PNA - Hx of Pseudomonas and Acinetobacter PNA requiring
   amikacin/colisitn, also recent MRSA PNA treated with Vancomycin .  no
   evidence of PNA at this time
   - cont to monitor
   .
   # R [**Name (NI) **] Pain
 pt with tenderness of R wrist.  Suspect contracture vs
   acute injury.  Does not appear to be septic joint, though must keep in
   differential.
   - symptomatic control
   .
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   .
   #. MS: Patient had a change in mental status along with his fevers,
   likely delirium related to infection and worsening parkinsons in acute
   stress.
   -- cont to trend
   .
   # Respiratory Failure: has had a tracheostomy for 2 months.  was on
   tracheal mask at rehab but now placed back on assist control due to AMS
   in setting of infection.
   -- cont AC ventilation
   -- Albuterol/Atroven nebs PRN
   .
    #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
    .
    #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
    #. ANEMIA: Hx of chronic anemia.  Received 2uPRBC and again on [**2-20**].
   - follow
    .
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   .
   #. NUTRITION:
   -- Nutren Replete with fiber 75ml/hr as tolerated
   .
    #. PPX:
   -- h/o HIT  and renal failure keeps us from using heparin or
   fundaparinox.  Pneumoboots.
   -- PO omeprazole
   -- bowel regimen
   .
    #. ACCESS: Midline placed [**2168-2-15**] now DC'd, PIV X2, avoiding CVL given
   + Blood Cx
   .
   #. CODE: DNR no pressors/HD after family meeting on [**2169-2-21**].
   .
   #. CONSENT: HCP signed consent
   .
   # Comm: HCP
   .
   #. DISPO: pending above
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2169-2-24**] 03:09 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-2-20**] 02:06 AM
   22 Gauge - [**2169-2-23**] 12:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-02-24 13:23:00 Physician Attending Progress Note
Chief Complaint: Fungemia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.1
F - [**2169-2-23**] 12:00 PM
   On Ps overnight, needed CIMV transiently for fatigue. Still febrile. No
   improvement in mental status. Pancultured today again.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Meropenem - [**2169-2-21**] 02:53 PM
   Caspofungin - [**2169-2-21**] 04:46 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-2-23**] 01:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-24**] 01:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.9
C (102.1
   HR: 86 (76 - 92) bpm
   BP: 102/56(66) {79/45(54) - 106/69(74)} mmHg
   RR: 26 (15 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,620 mL
                                                                    961 mL
   PO:
             TF:
                                                                    960 mL
                                                                    529 mL
   IVF:
                                                                    990 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    990 mL
   Urine:
                                                                  1,870 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    750 mL
                                                                    -29 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 431 (420 - 523) mL
   PS : 7 cmH2O
   RR (Set): 12
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: ///19/
   Ve: 10.7 L/min
   Physical Examination
   General Appearance: chr tremulous due to parkinsons, grimacing on hand
   mvt
   Eyes / Conjunctiva: pupils equal
   Head, Ears, Nose, Throat: trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all present
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 4+ pitting edema, scrotal edema
   Skin:  clear
   Neurologic: cog wheel rigidity, not awake/alert, does not respond to
   verbal stimuli, opens eyes, not tracking
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   223 K/uL
   112 mg/dL
   3.9 mg/dL
   19 mEq/L
   4.6 mEq/L
   99 mg/dL
   113 mEq/L
   143 mEq/L
   24.8 %
   14.3 K/uL
        [image002.jpg]
                             [**2169-2-18**]  12:44 AM
                             [**2169-2-18**]  04:46 AM
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
                             [**2169-2-23**]  03:19 AM
                             [**2169-2-24**]  03:56 AM
   WBC
   10.9
   9.7
   10.8
   11.5
   10.5
   13.1
   14.3
   Hct
   24.0
   23.0
   23.5
   26.9
   26.4
   25.6
   24.8
   Plt
   150
   161
   171
   193
   204
   215
   223
   Cr
   3.0
   3.4
   3.9
   4.1
   4.3
   4.0
   4.0
   3.9
   TCO2
   19
   Glucose
   124
   112
   107
   113
   111
   109
   95
   104
   112
   Other labs: PT / PTT / INR:15.6/39.5/1.4, ALT / AST:19/32, Alk Phos / T
   Bili:81/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:263 IU/L,
   Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
   67 y/o M with disseminated fungemia requiring fluconazole for life per
   ID, who have signed off. Continued altered mental status. Has hx of
   multiple MDR colonizations.
   ID: Pancultured again for recurrent fever today.
   Cards: Likely endocarditis, but not able to confirm given risk of
   TEE>benefit
   Acute/Chronic resp failure: stable but remains vent dependent.
   Attempting intermittent PSV.
   Acute renal failure/Electrolyte disturbance: Cr stable at 3.9. Good UO.
   Follow lytes. No dialysis per family discussion.
   Tremors/rigidity and pain: morphine and Ativan prn
   Hypernatremia: free water down feeding tube, trend
   Delirium: multifactorial from renal failure, infection and underlying
   Parkinson
   R brachial DVT: not being Rxed since distal, and associated with picc
   line.
   Case management for disposition help.
   Rest per resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2169-2-23**] 02:13 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: lantus
   Lines:
   18 Gauge - [**2169-2-20**] 02:06 AM
   22 Gauge - [**2169-2-23**] 12:13 AM
   Prophylaxis:
   DVT: Boots(off faundo due to renal failure, Hx of HIT)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)/no dialysis/no pressors
   Disposition :ICU
   Total time spent: 30
   Patient is critically ill

2169-02-25 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2169-2-24**] 12:38 PM
 SPUTUM CULTURE - At [**2169-2-24**] 12:38 PM
 URINE CULTURE - At [**2169-2-24**] 12:38 PM
 INVASIVE VENTILATION - STOP [**2169-2-25**] 04:05 AM
 INVASIVE VENTILATION - STOP [**2169-2-25**] 04:35 AM
 INVASIVE VENTILATION - START [**2169-2-25**] 04:42 AM
 INVASIVE VENTILATION - START [**2169-2-25**] 04:42 AM
 FEVER - 102.3
F - [**2169-2-24**] 02:00 PM
   - lidocaine patch for wrist
   - morphine changed to dilaudid per [**First Name4 (NamePattern1) 2086**] [**Last Name (NamePattern1) 4012**] recs
   Patient unable to provide history: Sedated
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-25**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.8
C (100
   HR: 90 (76 - 99) bpm
   BP: 95/28(44) {74/22(34) - 105/72(80)} mmHg
   RR: 27 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,806 mL
                                                                    291 mL
   PO:
             TF:
                                                                    966 mL
                                                                    185 mL
   IVF:
                                                                    240 mL
                                                                     46 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    400 mL
   Urine:
                                                                  1,600 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    206 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 506 (406 - 522) mL
   PS : 7 cmH2O
   RR (Set): 12
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 13 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present, Distended, PEG tube in place
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   179 K/uL
   7.5 g/dL
   130 mg/dL
   3.9 mg/dL
   22 mEq/L
   4.6 mEq/L
   97 mg/dL
   112 mEq/L
   143 mEq/L
   23.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2169-2-18**]  04:46 AM
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
                             [**2169-2-23**]  03:19 AM
                             [**2169-2-24**]  03:56 AM
                             [**2169-2-25**]  03:34 AM
   WBC
   10.9
   9.7
   10.8
   11.5
   10.5
   13.1
   14.3
   10.3
   Hct
   24.0
   23.0
   23.5
   26.9
   26.4
   25.6
   24.8
   23.7
   Plt
   150
   161
   171
   193
   [**Telephone/Fax (2) 4773**]79
   Cr
   3.0
   3.4
   3.9
   4.1
   4.3
   4.0
   4.0
   3.9
   3.9
   Glucose
   124
   112
   107
   113
   111
   109
   95
   104
   112
   130
   Other labs: PT / PTT / INR:15.6/39.5/1.4, ALT / AST:19/32, Alk Phos / T
   Bili:81/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:263 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR PNA who is
   admitted from [**Hospital 858**] Rehab with sepsis, found to have fungemia, Coag
   neg staph bacteremia as well as Klebsiella UTI. Pt was persistently
   febrile but Hemodynamically stable.
   .
   #. Sepsis: The pt has a history of recurrent MDR PNA as well as history
   of endocarditis. Recent admission with MRSA PNA, completed 14 day
   course of vancomycin on [**2-12**] now readmitted with fever. Blood cultures
   with yeast (prelim- C. albicans) and Coagulase negative Staph. Urine
   cultures with Klebsiella. Initially treated with
   Vanc/Meropenem/caspofungin.  Amikacin DC
d [**2-20**].
   - Vanc discontinued as surveillance cultures negative for CNS
   - changed caspo to fluconazole as [**Female First Name (un) 474**] is responsive to fluconazole
   and pt has ARF
   - discontinued meropenem as patient has completed course for UTI
   - Goal MAP >65
   - family does not want to start pressors
   - appreciate ID recs
   .
   # Acute on Chronic Renal Failure: Pt with history of AIN from colistin,
   Cr had improved to 1.5 now rising to > 4.0, likely [**2-6**] dehydration from
   fevers/UTI vs AIN.   Transiently had pyuria without bacteria on UA, but
   has yeast now.  His ARF may be secondary to AIN or ATN or
   pyonephritis.  Renal US without abscess or obstruction.  Now also with
   electrolyte abnormalities
 elevated phos.
   -- monitor Is and Os
   -- trend Creatinine
   -- IVF bolus PRN
   - Renally dose meds
   - kayexalate prn, phosphate binder
   - pt not likely candidate for initiation of HD, discussed with family
   .
   #. Fungemia
 unclear source at this time but urine vs PICC most
   likely.   Renal U/S negative for evidence of abscess.
   - 2/11&[**2-17**] blood cultures growing C.albicans
   - fluconazole as above
   - will not proceed with TEE after family meeting
   .
   # Coagulase negative staph bacteremia
 Likely line related infection
   from PICC.
   - completed vanc
   - follow surveillance cultures
   - all central lines DC
   .
   # Klebsiella pneumoniae UTI - (ESBL +) subsequent urine cultures
   cleared
   - completed [**Last Name (un) **] as above
   .
   # Hx MDR PNA - Hx of Pseudomonas and Acinetobacter PNA requiring
   amikacin/colisitn, also recent MRSA PNA treated with Vancomycin .  no
   evidence of PNA at this time
   - cont to monitor
   .
   # R [**Name (NI) **] Pain
 pt with tenderness of R wrist.  Suspect contracture vs
   acute injury.  Does not appear to be septic joint, though must keep in
   differential.
   - symptomatic control
   .
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   .
   #. MS: Patient had a change in mental status along with his fevers,
   likely delirium related to infection and worsening parkinsons in acute
   stress.
   -- cont to trend
   .
   # Respiratory Failure: has had a tracheostomy for 2 months.  was on
   tracheal mask at rehab but now placed back on assist control due to AMS
   in setting of infection.
   -- cont AC ventilation
   -- Albuterol/Atroven nebs PRN
   .
    #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
    .
    #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
    #. ANEMIA: Hx of chronic anemia.  Received 2uPRBC and again on [**2-20**].
   - follow
    .
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   .
   #. NUTRITION:
   -- Nutren Replete with fiber 75ml/hr as tolerated
   .
    #. PPX:
   -- h/o HIT  and renal failure keeps us from using heparin or
   fundaparinox.  Pneumoboots.
   -- PO omeprazole
   -- bowel regimen
   .
    #. ACCESS: Midline placed [**2168-2-15**] now DC'd, PIV X2, avoiding CVL given
   + Blood Cx
   .
   #. CODE: DNR no pressors/HD after family meeting on [**2169-2-21**].
   .
   #. CONSENT: HCP signed consent
   .
   # Comm: HCP
   .
   #. DISPO: pending above
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2169-2-24**] 03:09 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-2-20**] 02:06 AM
   22 Gauge - [**2169-2-23**] 12:13 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-02-25 11:03:00 Physician Attending Progress Note
Chief Complaint: fungemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yom with h/o Parkinson's s/p  trach, multiple recurrent MDR
   infections, now with fungemia.
   24 Hour Events:
   Lidocaine patch started for wrist pain. Morphine challenged to Dilaudid
   for renal failure.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2169-2-25**] 09:52 AM
   Other medications:
   aspirin, sinemet, colace, synthroid, ISS, lantus, albuterol, sevalemer,
   fluconazole, ropinarole, Ca, Lido patch
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema
   Nutritional Support: Tube feeds
   Respiratory: Dyspnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Neurologic: Parkinsons', tremors
   Flowsheet Data as of  [**2169-2-25**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 38.5
C (101.3
   HR: 94 (76 - 99) bpm
   BP: 101/47(59) {74/22(34) - 105/72(80)} mmHg
   RR: 23 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,806 mL
                                                                    872 mL
   PO:
             TF:
                                                                    966 mL
                                                                    431 mL
   IVF:
                                                                    240 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    620 mL
   Urine:
                                                                  1,600 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    206 mL
                                                                    252 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 432 (406 - 522) mL
   PS : 7 cmH2O
   RR (Set): 12
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 13 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 11.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Distended
   Extremities: Right: 2+, Left: 2+, scrotal edema
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   179 K/uL
   130 mg/dL
   3.9 mg/dL
   22 mEq/L
   4.6 mEq/L
   97 mg/dL
   112 mEq/L
   143 mEq/L
   23.7 %
   10.3 K/uL
        [image002.jpg]
                             [**2169-2-18**]  04:46 AM
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
                             [**2169-2-23**]  03:19 AM
                             [**2169-2-24**]  03:56 AM
                             [**2169-2-25**]  03:34 AM
   WBC
   10.9
   9.7
   10.8
   11.5
   10.5
   13.1
   14.3
   10.3
   Hct
   24.0
   23.0
   23.5
   26.9
   26.4
   25.6
   24.8
   23.7
   Plt
   150
   161
   171
   193
   [**Telephone/Fax (2) 4773**]79
   Cr
   3.0
   3.4
   3.9
   4.1
   4.3
   4.0
   4.0
   3.9
   3.9
   Glucose
   124
   112
   107
   113
   111
   109
   95
   104
   112
   130
   Other labs: PT / PTT / INR:15.6/39.5/1.4, ALT / AST:19/32, Alk Phos / T
   Bili:81/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:263 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR [**2-23**]- b/l patchy infiltrates, overall stable.
   Microbiology: urine- yeast [**2-24**]
   sputum- GS neg
   blood- most recent neg to date
   BAL [**2-17**]- acinetobacter, PSA
   Assessment and Plan
   67 yom with h/o Parkinson's, s/p trach with multiple MDR pneumonias,
   infections, now with fungemia and renal failure.
   1)ID- completed courses for coag neg staph bacteremia and Klebsiella
   UTI. Now on fluc indefinitely for fungemia (?of endocarditis).
   2)Renal- acute on chronic renal failure. thought to be med-related vs.
   from sepsis. making urine so far, family does not want HD.
   3)Neuro- h /o parkinson's, continue his regimen. Very poor mental
   status, but not acute per team.
   4)FEN- TFs via PEG
   5)Heme- brachial clot at site of old PICC, not being treated. h/o HIT.
   6)ICU- boots, PPI, 2 peripherals. DNR, do not escalate.
   7)Pulm- vent weaning as tolerated.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2169-2-25**] 04:22 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-2-25**] 10:23 AM
   22 Gauge - [**2169-2-25**] 10:24 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2169-02-26 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.3
F - [**2169-2-25**] 10:00 AM
   250 NS Bolus
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Fluconazole - [**2169-2-25**] 12:16 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2169-2-25**] 09:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-26**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.3
C (101
   HR: 73 (71 - 94) bpm
   BP: 114/50(64) {58/27(41) - 125/75(80)} mmHg
   RR: 15 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,325 mL
                                                                    786 mL
   PO:
             TF:
                                                                    967 mL
                                                                    295 mL
   IVF:
                                                                    647 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                    560 mL
   Urine:
                                                                  1,525 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    800 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 316 (316 - 450) mL
   PS : 7 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 65
   PIP: 37 cmH2O
   Plateau: 19 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 100%
   ABG: ///20/
   Ve: 12.7 L/min
   Physical Examination
   Gen: opens eyes to verbal stimuli, doesn
 follow commands
   HEENT: MMM, pupils equally round and minimally reactive
   Heart: S1S2 RRR
   Lungs: Coarse BS diffusely
   Abdemen: soft, NT
   Ext: WWP
   Neuro: limited as patient does not follow commands
   Labs / Radiology
   177 K/uL
   7.2 g/dL
   127 mg/dL
   3.8 mg/dL
   20 mEq/L
   4.6 mEq/L
   96 mg/dL
   115 mEq/L
   145 mEq/L
   22.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
                             [**2169-2-23**]  03:19 AM
                             [**2169-2-24**]  03:56 AM
                             [**2169-2-25**]  03:34 AM
                             [**2169-2-26**]  03:08 AM
   WBC
   9.7
   10.8
   11.5
   10.5
   13.1
   14.3
   10.3
   9.5
   Hct
   23.0
   23.5
   26.9
   26.4
   25.6
   24.8
   23.7
   22.7
   Plt
   161
   171
   193
   [**Telephone/Fax (2) 4786**]77
   Cr
   3.4
   3.9
   4.1
   4.3
   4.0
   4.0
   3.9
   3.9
   3.8
   Glucose
   112
   107
   113
   111
   109
   95
   104
   112
   130
   127
   Other labs: PT / PTT / INR:15.6/39.5/1.4, ALT / AST:19/32, Alk Phos / T
   Bili:81/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:263 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR PNA who is
   admitted from [**Hospital 858**] Rehab with sepsis, found to have fungemia, Coag
   neg staph bacteremia as well as Klebsiella UTI. Pt was persistently
   febrile but Hemodynamically stable.
   .
   #. Sepsis: The pt has a history of recurrent MDR PNA as well as history
   of endocarditis. Recent admission with MRSA PNA, completed 14 day
   course of vancomycin on [**2-12**] now readmitted with fever. Blood cultures
   with yeast (prelim- C. albicans) and Coagulase negative Staph. Urine
   cultures with Klebsiella. Initially treated with
   Vanc/Meropenem/caspofungin.  Amikacin DC
d [**2-20**].
   - Vanc discontinued as surveillance cultures negative for CNS
   - changed caspo to fluconazole as [**Female First Name (un) 474**] is responsive to fluconazole
   and pt has ARF
   - discontinued meropenem as patient has completed course for UTI
   - Goal MAP >65
   - family does not want to start pressors
   - appreciate ID recs
   .
   # Acute on Chronic Renal Failure: Pt with history of AIN from colistin,
   Cr had improved to 1.5 now rising to > 4.0, likely [**2-6**] dehydration from
   fevers/UTI vs AIN.   Transiently had pyuria without bacteria on UA, but
   has yeast now.  His ARF may be secondary to AIN or ATN or
   pyonephritis.  Renal US without abscess or obstruction.  Now also with
   electrolyte abnormalities
 elevated phos.
   -- monitor Is and Os
   -- trend Creatinine
   -- IVF bolus PRN
   - Renally dose meds
   - kayexalate prn, phosphate binder
   - pt not likely candidate for initiation of HD, discussed with family
   .
   #. Fungemia
 unclear source at this time but urine vs PICC most
   likely.   Renal U/S negative for evidence of abscess.
   - 2/11&[**2-17**] blood cultures growing C.albicans
   - fluconazole as above
   - will not proceed with TEE after family meeting
   .
   # Coagulase negative staph bacteremia
 Likely line related infection
   from PICC.
   - completed vanc
   - follow surveillance cultures
   - all central lines DC
   .
   # Klebsiella pneumoniae UTI - (ESBL +) subsequent urine cultures
   cleared
   - completed [**Last Name (un) **] as above
   .
   # Hx MDR PNA - Hx of Pseudomonas and Acinetobacter PNA requiring
   amikacin/colisitn, also recent MRSA PNA treated with Vancomycin .  no
   evidence of PNA at this time
   - cont to monitor
   .
   # R [**Name (NI) **] Pain
 pt with tenderness of R wrist.  Suspect contracture vs
   acute injury.  Does not appear to be septic joint, though must keep in
   differential.
   - symptomatic control
   .
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   .
   #. MS: Patient had a change in mental status along with his fevers,
   likely delirium related to infection and worsening parkinsons in acute
   stress.
   -- cont to trend
   .
   # Respiratory Failure: has had a tracheostomy for 2 months.  was on
   tracheal mask at rehab but now placed back on assist control due to AMS
   in setting of infection.
   -- try to wean down on PS
   -- Albuterol/Atroven nebs PRN
   .
    #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
    .
    #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
    #. ANEMIA: Hx of chronic anemia.  Received 2uPRBC and again on [**2-20**].
   - follow
    .
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   .
   #. NUTRITION:
   -- Nutren Replete with fiber 75ml/hr as tolerated
   .
    #. PPX:
   -- h/o HIT  and renal failure keeps us from using heparin or
   fundaparinox.  Pneumoboots.
   -- PO omeprazole
   -- bowel regimen
   .
    #. ACCESS: Midline placed [**2168-2-15**] now DC'd, PIV X2, avoiding CVL given
   + Blood Cx
   .
   #. CODE: DNR no pressors/HD after family meeting on [**2169-2-21**].
   .
   #. CONSENT: HCP signed consent
   .
   # Comm: HCP
   .
   #. DISPO: pending family involvement tomorrow
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2169-2-26**] 04:40 AM 40 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2169-2-25**] 10:24 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-02-27 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2169-2-26**] 08:00 AM
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Fluconazole - [**2169-2-25**] 12:16 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2169-2-27**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.3
C (101
   HR: 79 (71 - 90) bpm
   BP: 103/54(64) {88/44(53) - 122/61(75)} mmHg
   RR: 21 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,974 mL
                                                                    589 mL
   PO:
                  TF:
                                                                    963 mL
                                                                    289 mL
   IVF:
                                                                    131 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    540 mL
   Urine:
                                                                  1,770 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    204 mL
                                                                     49 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 406 (406 - 518) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   177 K/uL
   7.2 g/dL
   127 mg/dL
   3.8 mg/dL
   20 mEq/L
   4.6 mEq/L
   96 mg/dL
   115 mEq/L
   145 mEq/L
   22.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
                             [**2169-2-23**]  03:19 AM
                             [**2169-2-24**]  03:56 AM
                             [**2169-2-25**]  03:34 AM
                             [**2169-2-26**]  03:08 AM
   WBC
   9.7
   10.8
   11.5
   10.5
   13.1
   14.3
   10.3
   9.5
   Hct
   23.0
   23.5
   26.9
   26.4
   25.6
   24.8
   23.7
   22.7
   Plt
   161
   171
   193
   [**Telephone/Fax (2) 4786**]77
   Cr
   3.4
   3.9
   4.1
   4.3
   4.0
   4.0
   3.9
   3.9
   3.8
   Glucose
   112
   107
   113
   111
   109
   95
   104
   112
   130
   127
   Other labs: PT / PTT / INR:15.6/39.5/1.4, ALT / AST:19/32, Alk Phos / T
   Bili:81/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:263 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   67 yom s/p tracheostomy, h/o Pseudomonas/Acineterbacter MDR PNA who is
   admitted from [**Hospital 858**] Rehab with sepsis, found to have fungemia, Coag
   neg staph bacteremia as well as Klebsiella UTI. Pt was persistently
   febrile but Hemodynamically stable.
   .
   #. Sepsis: The pt has a history of recurrent MDR PNA as well as history
   of endocarditis. Recent admission with MRSA PNA, completed 14 day
   course of vancomycin on [**2-12**] now readmitted with fever. Blood cultures
   with yeast (prelim- C. albicans) and Coagulase negative Staph. Urine
   cultures with Klebsiella. Initially treated with
   Vanc/Meropenem/caspofungin.  Amikacin DC
d [**2-20**].
   - Vanc discontinued as surveillance cultures negative for CNS
   - changed caspo to fluconazole as [**Female First Name (un) 474**] is responsive to fluconazole
   and pt has ARF
   - discontinued meropenem as patient has completed course for UTI
   - Goal MAP >65
   - family does not want to start pressors
   - appreciate ID recs
   .
   # Acute on Chronic Renal Failure: Pt with history of AIN from colistin,
   Cr had improved to 1.5 now rising to > 4.0, likely [**2-6**] dehydration from
   fevers/UTI vs AIN.   Transiently had pyuria without bacteria on UA, but
   has yeast now.  His ARF may be secondary to AIN or ATN or
   pyonephritis.  Renal US without abscess or obstruction.  Now also with
   electrolyte abnormalities
 elevated phos.
   -- monitor Is and Os
   -- trend Creatinine
   -- IVF bolus PRN
   - Renally dose meds
   - kayexalate prn, phosphate binder
   - pt not likely candidate for initiation of HD, discussed with family
   .
   #. Fungemia
 unclear source at this time but urine vs PICC most
   likely.   Renal U/S negative for evidence of abscess.
   - 2/11&[**2-17**] blood cultures growing C.albicans
   - fluconazole as above
   - will not proceed with TEE after family meeting
   .
   # Coagulase negative staph bacteremia
 Likely line related infection
   from PICC.
   - completed vanc
   - follow surveillance cultures
   - all central lines DC
   .
   # Klebsiella pneumoniae UTI - (ESBL +) subsequent urine cultures
   cleared
   - completed [**Last Name (un) **] as above
   .
   # Hx MDR PNA - Hx of Pseudomonas and Acinetobacter PNA requiring
   amikacin/colisitn, also recent MRSA PNA treated with Vancomycin .  no
   evidence of PNA at this time
   - cont to monitor
   .
   # R [**Name (NI) **] Pain
 pt with tenderness of R wrist.  Suspect contracture vs
   acute injury.  Does not appear to be septic joint, though must keep in
   differential.
   - symptomatic control
   .
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   .
   #. MS: Patient had a change in mental status along with his fevers,
   likely delirium related to infection and worsening parkinsons in acute
   stress.
   -- cont to trend
   .
   # Respiratory Failure: has had a tracheostomy for 2 months.  was on
   tracheal mask at rehab but now placed back on assist control due to AMS
   in setting of infection.
   -- try to wean down on PS
   -- Albuterol/Atroven nebs PRN
   .
    #. PARKINSON's DISEASE:
   -- cont Sinemet and Ropinirole.
    .
    #. HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg.
   .
    #. ANEMIA: Hx of chronic anemia.  Received 2uPRBC and again on [**2-20**].
   - follow
    .
   #. DIABETES:
   -- cont Glargine 30 units QHS + SSI
   .
   #. NUTRITION:
   -- Nutren Replete with fiber 75ml/hr as tolerated
   .
    #. PPX:
   -- h/o HIT  and renal failure keeps us from using heparin or
   fundaparinox.  Pneumoboots.
   -- PO omeprazole
   -- bowel regimen
   .
    #. ACCESS: Midline placed [**2168-2-15**] now DC'd, PIV X2, avoiding CVL given
   + Blood Cx
   .
   #. CODE: DNR no pressors/HD after family meeting on [**2169-2-21**].
   .
   #. CONSENT: HCP signed consent
   .
   # Comm: HCP
   .
   #. DISPO: pending family involvement tomorrow
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2169-2-27**] 02:01 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-2-26**] 08:00 AM
   22 Gauge - [**2169-2-27**] 06:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-02-27 12:04:00 Physician Attending Progress Note
Chief Complaint: Fungemia, renal failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.4
F - [**2169-2-26**] 08:00 AM
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Fluconazole - [**2169-2-25**] 12:16 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2169-2-27**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-27**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 80 (71 - 90) bpm
   BP: 102/52(63) {88/44(53) - 122/60(75)} mmHg
   RR: 19 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,974 mL
                                                                    833 mL
   PO:
                  TF:
                                                                    963 mL
                                                                    473 mL
   IVF:
                                                                    131 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    860 mL
   Urine:
                                                                  1,770 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    204 mL
                                                                    -27 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 406 (406 - 518) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 13.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese, unresponsive
   Eyes / Conjunctiva: PERRL, responds to threat
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), coarse
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Labs / Radiology
   7.2 g/dL
   177 K/uL
   127 mg/dL
   3.8 mg/dL
   20 mEq/L
   4.6 mEq/L
   96 mg/dL
   115 mEq/L
   145 mEq/L
   22.7 %
   9.5 K/uL
        [image002.jpg]
                             [**2169-2-19**]  06:00 AM
                             [**2169-2-20**]  03:44 AM
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
                             [**2169-2-23**]  03:19 AM
                             [**2169-2-24**]  03:56 AM
                             [**2169-2-25**]  03:34 AM
                             [**2169-2-26**]  03:08 AM
   WBC
   9.7
   10.8
   11.5
   10.5
   13.1
   14.3
   10.3
   9.5
   Hct
   23.0
   23.5
   26.9
   26.4
   25.6
   24.8
   23.7
   22.7
   Plt
   161
   171
   193
   [**Telephone/Fax (2) 4786**]77
   Cr
   3.4
   3.9
   4.1
   4.3
   4.0
   4.0
   3.9
   3.9
   3.8
   Glucose
   112
   107
   113
   111
   109
   95
   104
   112
   130
   127
   Other labs: PT / PTT / INR:15.6/39.5/1.4, ALT / AST:19/32, Alk Phos / T
   Bili:81/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:263 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
   67 yom with h/o Parkinson's, s/p trach with multiple MDR pneumonias,
   infections, now with fungemia and renal failure.
   1)ID- completed courses for coag neg staph bacteremia and Klebsiella
   UTI. Now on fluc indefinitely for fungemia (?of endocarditis).
   Continues to spike fevers, cultured periodically.
   2)Renal- acute on chronic renal failure. thought to be med-related vs.
   from sepsis. making urine so far, family does not want HD.
   3)Neuro- h /o parkinson's, continue his regimen. Very poor mental
   status, no improvement.
   4)FEN- TFs via PEG
   5)Heme- brachial clot at site of old PICC, not being treated. h/o HIT.
   anemia, decrease blood draws to every other day labs.
   6)ICU- boots, PPI, 2 peripherals. DNR, do not escalate. Getting
   Dilaudid for pain control, given in response to facial grimacing.
   Ongoing family discussions between primary team, palliative care, PCP
   and family re: poor prognosis, possible move towards comfort care.
   7) Vent: Wean as tolerated, TC trial today
   Rest per resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2169-2-27**] 02:01 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: + lantus
   Lines:
   18 Gauge - [**2169-2-26**] 08:00 AM
   22 Gauge - [**2169-2-27**] 06:01 AM
   Prophylaxis:
   DVT: Boots (off fondoparinaux due to renal failure)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  I had 20 minute discussion with 2 daughters and wife,
   [**Name (NI) 625**]. I offered my opinion that at best, Mr [**Known lastname 2919**] will likely only be
   wheelchair bound, and will likely rebound with infections on a regular
   basis. He is currently stable on PSV and tolerating trach collar for
   past few hours. He continues to be non-responsive but occasionally
   opens eyes with no purposeful movement. He has been rocking his head
   from side to side, which is not the first time [**First Name8 (NamePattern2) 77**] [**Doctor First Name 625**]. We will have
   him screened for LTAC as he has been stable over past few days. Fevers
   might preclude his transfer at this time. Continue vent wean,
   Fluconazole, tube feeds, Parkinson
s meds.
   Code status: DNR (do not resuscitate)/no HD/no pressors/no escalation
   of care.
   Disposition :ICU, [**Hospital1 **] screen
   Total time spent: 45 minutes
   Patient is critically ill

2169-02-28 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2169-2-27**] 08:00 AM
   - tolerated trach collar for 8 hrs, back to PS 5/5 overnight
   - sevelemer discontinued
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Fluconazole - [**2169-2-25**] 12:16 PM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2169-2-28**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-28**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 78 (73 - 94) bpm
   BP: 91/44(56) {89/37(53) - 114/63(73)} mmHg
   RR: 17 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,779 mL
                                                                    581 mL
   PO:
                  TF:
                                                                    969 mL
                                                                    311 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    490 mL
   Urine:
                                                                  1,565 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    214 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 345 (345 - 376) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 64
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 9.6 L/min
   Physical Examination
   Gen: opens eyes to verbal stimuli, does not communicate
   HEENT: MMM
   Heart: S1S2 RRR
   Lungs: coarse BS diffusely
   Abdomen: soft NT
   Ext: contracture of right wrist, resting tremor
   Neuro: does not follow commands, has muscle rigidity
   Labs / Radiology
   196 K/uL
   7.5 g/dL
   108 mg/dL
   3.6 mg/dL
   22 mEq/L
   4.6 mEq/L
   96 mg/dL
   116 mEq/L
   147 mEq/L
   24.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
                             [**2169-2-23**]  03:19 AM
                             [**2169-2-24**]  03:56 AM
                             [**2169-2-25**]  03:34 AM
                             [**2169-2-26**]  03:08 AM
                             [**2169-2-28**]  03:38 AM
                             [**2169-2-28**]  05:01 AM
   WBC
   11.5
   10.5
   13.1
   14.3
   10.3
   9.5
   8.9
   Hct
   26.9
   26.4
   25.6
   24.8
   23.7
   22.7
   24.6
   Plt
   193
   204
   215
   223
   179
   177
   196
   Cr
   4.1
   4.3
   4.0
   4.0
   3.9
   3.9
   3.8
   3.7
   3.6
   Glucose
   113
   111
   109
   95
   104
   112
   130
   127
   105
   108
   Other labs: PT / PTT / INR:15.6/39.5/1.4, ALT / AST:19/32, Alk Phos / T
   Bili:81/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:263 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   67 y/o gentleman s/p tracheostomy, h/o MDR PNA who was admitted from
   [**Hospital 858**] Rehab with sepsis, found to have fungemia, Coag neg staph
   bacteremia as well as Klebsiella UTI.
   # Respiratory Failure:  s/p tracheostomy 2 months ago.   He was
   previously on tracheal mask at rehab.   Repeat sputum culture growing
   acinetobacter and pseudomonas, both of which are known to be colonized.
   - currenly tolerating trach mask
   - Albuterol/Atroven nebs PRN
   #. Fungemia
 unclear source at this time but urine vs PICC most
   likely.  PICC was removed.   Renal U/S negative for evidence of
   abscess.
   - 2/11&[**2-17**] blood cultures growing C.albicans.
   - fluconazole as above, as per sensitivities, with plan to treat
   indefinitely
   - f/u surveillance blood cultures
   - will not proceed with TEE after family meeting
   - Appreciate ID recs
   # Acute on Chronic Renal Failure: Pt with history of AIN from colistin,
   Cr had improved to 1.5 now stable at ~ 4.0, likely [**2-6**] dehydration from
   fevers/UTI vs AIN.   His ARF may be secondary to AIN or ATN.  Renal US
   without abscess or obstruction.
   - monitor Is and Os
   - trend Creatinine QOD
   - Renally dose meds
   - pt not likely candidate for initiation of HD, discussed with family
   # Coagulase negative staph bacteremia
  Suspect line-infection vs.
   contamination.
   - completed vancomycin 7 day course
   - follow surveillance cultures
   - PICC discontinued immediately following positive blood cultures
   # Klebsiella pneumoniae UTI - (ESBL +) subsequent urine cultures
   cleared
   - completed meropenem 7-day course, now s/p foley exchange
   # RUE Pain
 Suspect pain is secondary to pain in the setting of
   worsening contracture.  Plain films on [**2-23**] negative for fracture or
   dislocation.   Patient did not tolerate splint placement.
   - Pain control with Dilaudid PRN
   - Started fentanyl patch
   .
   # Right Brachial DVT:  RUE with swelling on admission, +brachial DVT on
   U/S.  As this is not proximal, decision was not to treat at this time.
   -- cont to monitor
   #. Parkinson
s Disease:
   -- cont Sinemet and Ropinirole.
    .
    #. Hypothyroidism:
   -- cont levothyroxine 88 mcg.
   .
   #. Diabetes:
   -- cont Glargine 30 units QHS + SSI
   .
   #.FEN:
   -- Tube feed as tolerated
   #. PPX:
   -- Patient has h/o HIT, so SC heparin is contraindicated.  Fondaparinox
   contraindicated by renal failure
   -- Pneumoboots as DVT prophylaxis
   -- Continue Lansoprazole as GI prophylaxis
   -- bowel regimen
   -- Mouthcare, HOB elevation
   #. ACCESS: PIV
s x 3.
   #. CODE: DNR.  No pressors/HD after family meeting on [**2169-2-21**].
   .
   #. CONSENT: HCP signed consent
   # Comm: Wife and daughters.  [**Name (NI) **]
s PCP [**Last Name (NamePattern4) **]. [**Last Name (STitle) 2576**] continues to
   discuss with family.
   .
   # Dispo:  Discussed with family regarding rehab placement.  His wife
   wants the patient to transition to inpatient hospice if possible.
   Appreciate Palliative care assistance.  Appreciate PCP [**Name Initial (PRE) 4822**].
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2169-2-28**] 02:41 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2169-2-26**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2169-02-28 11:41:00 Physician Attending Progress Note
Chief Complaint: Multiple infections
   HPI:
   24 Hour Events:
 FEVER - 101.1
F - [**2169-2-27**] 08:00 AM
   Tolerating TM
   No improvement in mental status.
   Appears very uncomfortable when cared for.
   Allergies:
   Tagamet (Oral) (Cimetidine)
   Unknown;
   Ditropan (Oral) (Oxybutynin Chloride)
   Anaphylaxis;
   Penicillins
   Unspecified [**Doctor First Name **]
   Lisinopril (Oral)
   Hives;
   Heparin Agents
   Heparin Induced
   Last dose of Antibiotics:
   Fluconazole - [**2169-2-25**] 12:16 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2169-2-28**] 09:00 AM
   Hydromorphone (Dilaudid) - [**2169-2-28**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-28**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 78 (73 - 94) bpm
   BP: 79/46(59) {79/37(53) - 114/63(73)} mmHg
   RR: 15 (15 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,779 mL
                                                                  1,437 mL
   PO:
             TF:
                                                                    969 mL
                                                                    457 mL
   IVF:
   500 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    845 mL
   Urine:
                                                                  1,565 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    214 mL
                                                                    592 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 345 (345 - 376) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 9.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese, unresponsive
   Eyes / Conjunctiva: PERRL, responds to threat
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), coarse
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Labs / Radiology
   7.5 g/dL
   196 K/uL
   108 mg/dL
   3.6 mg/dL
   22 mEq/L
   4.6 mEq/L
   96 mg/dL
   116 mEq/L
   147 mEq/L
   24.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2169-2-21**]  04:01 AM
                             [**2169-2-21**]  06:00 AM
                             [**2169-2-21**]  02:54 PM
                             [**2169-2-22**]  04:07 AM
                             [**2169-2-23**]  03:19 AM
                             [**2169-2-24**]  03:56 AM
                             [**2169-2-25**]  03:34 AM
                             [**2169-2-26**]  03:08 AM
                             [**2169-2-28**]  03:38 AM
                             [**2169-2-28**]  05:01 AM
   WBC
   11.5
   10.5
   13.1
   14.3
   10.3
   9.5
   8.9
   Hct
   26.9
   26.4
   25.6
   24.8
   23.7
   22.7
   24.6
   Plt
   193
   204
   215
   223
   179
   177
   196
   Cr
   4.1
   4.3
   4.0
   4.0
   3.9
   3.9
   3.8
   3.7
   3.6
   Glucose
   113
   111
   109
   95
   104
   112
   130
   127
   105
   108
   Other labs: PT / PTT / INR:15.6/39.5/1.4, ALT / AST:19/32, Alk Phos / T
   Bili:81/0.2, Differential-Neuts:84.5 %, Lymph:8.4 %, Mono:3.4 %,
   Eos:3.5 %, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:263 IU/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:5.3 mg/dL
   Microbiology: Spu cx: [**2-24**]: pseudomonas, acinetobacter: no scretions,
   likely colonized.
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
   67 yr old male with h/o Parkinson's, s/p trach with multiple MDR
   pneumonias, infections, now with fungemia and stable renal failure.
   1) ID/sepsis/infection- completed courses for coag neg staph bacteremia
   and Klebsiella UTI. Now on fluc indefinitely for fungemia (?of
   endocarditis). Continues to spike fevers, cultured periodically.
   Colonized with acenitobactor and pseudomonas in sputum. Hypotension has
   not responded to fluid boluses in the past SBP 79 at this time. > 25 L
   fluid + this LOS.
   2)Renal/electrolytes- acute on chronic renal failure. Thought to be
   med-related vs. from sepsis. making urine so far, family does not want
   HD. Free water for hypernatremia
   3)Neuro- h /o parkinson's, continue his regimen. Very poor mental
   status, no improvement.
   4)FEN- TFs via PEG
   5)Heme- brachial clot at site of old PICC, not being treated. h/o HIT.
   anemia, decrease blood draws to every other day labs. Restart DVT ppx
   with fondo (HIT +) once Cr improves.
   6) Pain: Getting Dilaudid iv for pain control, given in response to
   facial grimacing. Switch to fentanyl patch and dilaudid down peg.
   7) Vent: On Trach collar
    Rest per resident note
   ICU Care
   ICU Care
   Nutrition: Nutren Renal (Full) - [**2169-2-27**] 02:01 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: + lantus
   Lines:
   18 Gauge - [**2169-2-26**] 08:00 AM
   22 Gauge - [**2169-2-27**] 06:01 AM
   Prophylaxis:
   DVT: Boots (off fondoparinaux due to renal failure)
   Stress ulcer: PPI
   Code status: DNR (do not resuscitate)/no HD/no pressors/no escalation
   of care.
   Disposition :Has a bed at [**Hospital 858**] Rehab..discuss goals of care with
   wife/daughters, vs hospice care
   Total time spent: 30 minutes
   Patient is critically ill
   Addendum: since this morning, family meeting took place with palliative
   care, social work, Dr [**Last Name (STitle) 4723**]. Family is prepared for patient to
   transfer to the floor with no escalation of care. They are considering
   discontinuation of tube feeds, antibiotics and other meds.